2189-07-16 21:42:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with IPF on home O2 - admitted 2 weeks ago with respiratory
   distress and worsening hypoxemia. His symptoms worsened 2 weeks prior
   to that admission. CT-A showed worse fibrosis and widespread ground
   glass infiltrates compared with [**2185**]. He was given steroids and
   discharged after 4-5 days to rehab.
   At rehab, his symptoms improved and he was weaned from 4 LPM to his
   baseline 2 LPM of O2. Discharged home 1 week ago.
   This AM he became acutely dyspneic, along with fevers and cough
   productive of yellow/bloody sputum. In outside ER - temp was 102. He
   was placed on 100% NRB and was given antibiotics and solumedrol. ABG
   showed 7.47/32/73 on 100% NRB. His current prednisone dose is 20mg qd.
   He had 3 episodes of post-tussis emesis. CXR showed new right mid lung
   field infiltrate.
   In our ER, afebrile, 88% on 6 LPM.
                                 History obtained from house staff
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-16**] 08:33 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   IPF on 2 LPM home O2
   CAD - stent '[**87**]
   spinal stenosis
   gerd
   htn
   former smoker
   iron furniture factory worker
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2189-7-16**] 09:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.2
C (95.3
   HR: 58 (58 - 64) bpm
   BP: 104/57(69) {104/57(69) - 115/61(72)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
             629 mL
   PO:
             TF:
   IVF:
   629 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.42/34/107//-1
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: mod resp distress at rest
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   151
   1.2
   21
   134
   36
   15
        [image002.jpg]
                             [**2189-7-16**]  08:32 PM
   TCO2
   23
   Other labs: PT / PTT / INR:12.9/22.1/1.1, Lactic Acid:2.6 mmol/L
   Imaging: CXR with new right mid lung field infiltrate, background of
   fibrosis/ILD
   ECG: NSR 75,
   Assessment and Plan
   Resp distress - presentation appears most compatible with acute
   infection. His ILD has clearly worsened radiographically over the past
   3 years though there's no convincing evidence an IPF flare explains
   either admission this month. His serial PFTs are variable and difficult
   to interpret. The clinical improvement over the past 2-3 weeks makes an
   IPF flare an unlikely explanation for the prior admission. This admit
   due to fever, hypoxemia and a new infiltrate seems to be due to
   pneumonia. Will treat for pneumonia broadly, continue at current
   prednisone dose. Doubt PCP, [**Name Initial (NameIs) 7511**]. Wean O2 as tolerated.
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-7-16**] 06:21 PM
   18 Gauge - [**2189-7-16**] 06:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2189-07-17 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2189-7-16**] 08:31 PM
 NASAL SWAB - At [**2189-7-16**] 08:31 PM
 URINE CULTURE - At [**2189-7-16**] 08:32 PM
   -Continued requiring high flow O2 o/n.
   -desaturations to low 80's with change to NC
   -Sips of clears only while high O2 requirements persist
   -some productive cough with sputum
   -daughter concerned about nutrition status, calling Dr. [**Last Name (STitle) 7513**], and
   starting home cardiac meds
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-16**] 08:33 PM
   Ciprofloxacin - [**2189-7-16**] 09:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-17**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-17**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.4
C (95.8
   HR: 67 (47 - 91) bpm
   BP: 122/57(83) {104/49(66) - 141/72(89)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,469 mL
                                                                    191 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    859 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    800 mL
   Urine:
                                                                  1,100 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 91%
   ABG: 7.42/34/107/25/-1
   PaO2 / FiO2: 113
   Physical Examination
   Gen- AOx3, conversive, mild respiratory distress
   HEENT-no JVD, supple neck
   Pulm- tachypnea, post. Bibasilar crackles, no wheeze
   CV- S1/S2 w/o MGR
   Abd- soft, NTND. +BS
   Ext- no LE edema
   Labs / Radiology
   170 K/uL
   13.4 g/dL
   158 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   20 mg/dL
   104 mEq/L
   138 mEq/L
   39.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2189-7-16**]  07:44 PM
                             [**2189-7-16**]  08:32 PM
                             [**2189-7-17**]  02:56 AM
   WBC
   9.1
   11.0
   Hct
   36.2
   39.2
   Plt
   151
   170
   Cr
   1.1
   0.9
   TropT
   0.05
   0.05
   TCO2
   23
   Glucose
   217
   158
   Other labs: PT / PTT / INR:12.9/22.1/1.1, CK / CKMB /
   Troponin-T:69//0.05, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:93.2 %, Lymph:4.0 %, Mono:1.4 %, Eos:0.4 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR-pending this AM
   Microbiology: Legionella antigen negative
   Bcx, Ucx from [**7-16**] pending
   ECG: NSR, RAD, no ST elevations, no change from prior 3weeks ago
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Assessment and Plan: This is a 76M with IPF recently admitted with
   presumed IPF exacerbation now a/w acute worsening SOB, hypoxemia,
   fever, chills and R infiltrate consistent with HCAP.
   .
   #  Shortness of breath: Pt presenting with worsening SOB and increased
   oxygen requirement associated with fever, chills, and leukocytosis most
   consistent with HCAP. Given R infiltrate concern for new development of
   PNA vs worsening of fibrotic lung disease. Hospitalized 3 weeks ago.
   - cefepime, Vanco for HCAP
   - obtain sputum for cx
   - CXR this AM
   - Prednisone 60mg PO QD
   - restart home NAC
   - d/w outpt pulm Dr. [**Last Name (STitle) 549**] in am
   - ROMI: get thrid set and f/u EKG
   - sips of clears while
   - U/S B/L Les for DVt
   - Hold off on CTA now, revisit if respiratory status improves or if
   requires  intubation
   .
   # IPF:
   -Continue outpt NAC
   -steroids as above
   -d/w outpt pulm
   .
   #Communication: Farsi speaking, daughter translated o/n
   -call farsi interpretor this AM
   # NPO
   -bolus IVF 500cc
   -discuss dietary status this PM, may start slow feeds when respiratory
   status improves
   # CAD: Continue ASA, Plavix, BB, Imdur with holding parameters
   -continue to trend CE's and get repeat EKG with 3rd set
   .
   # GERD: Resume home PPI while on high dose steroids
   ICU Care
   Nutrition:
   Comments: Sips of clears
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2189-7-16**] 06:21 PM
   18 Gauge - [**2189-7-16**] 06:22 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  with daughter
   [**Name (NI) 129**] status: full code
   Disposition: ICU

2189-07-17 09:13:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, pheumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Desatted to 80s when switched to nasal canula.  Requiring 100% hi-flow
   - to keep sats in the mid-90s
   24 Hour Events:
 BLOOD CULTURED - At [**2189-7-16**] 08:31 PM
 NASAL SWAB - At [**2189-7-16**] 08:31 PM
 URINE CULTURE - At [**2189-7-16**] 08:32 PM
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-16**] 08:33 PM
   Ciprofloxacin - [**2189-7-16**] 09:33 PM
   Vancomycin - [**2189-7-17**] 07:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-17**] 12:25 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea, Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-7-17**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.2
C (95.3
   HR: 88 (47 - 91) bpm
   BP: 132/59(77) {104/49(66) - 141/72(89)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,469 mL
                                                                    465 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    859 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    800 mL
   Urine:
                                                                  1,100 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: 7.47/36/80.[**Numeric Identifier 500**]/25/2
   PaO2 / FiO2: 80
   Physical Examination
   Gen: mod resp distress with movement
   CV: RRR.
   Res: Bibasilar crackles.  Rhochi scattered throughout.
   Abd: s. NT/ND.
   Ext: no C/C/E
   Labs / Radiology
   13.4 g/dL
   170 K/uL
   158 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   20 mg/dL
   104 mEq/L
   138 mEq/L
   39.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2189-7-16**]  07:44 PM
                             [**2189-7-16**]  08:32 PM
                             [**2189-7-17**]  02:56 AM
                             [**2189-7-17**]  07:16 AM
   WBC
   9.1
   11.0
   Hct
   36.2
   39.2
   Plt
   151
   170
   Cr
   1.1
   0.9
   TropT
   0.05
   0.05
   TCO2
   23
   27
   Glucose
   217
   158
   Other labs: PT / PTT / INR:12.9/22.1/1.1, CK / CKMB /
   Troponin-T:69//0.05, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:93.2 %, Lymph:4.0 %, Mono:1.4 %, Eos:0.4 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   76 yo man with pulmonary fibrosis with hypoxemia due to likely right
   sided pneumonia.  Cannot rule out exacerbation of IPF.
   1. Hypoxemia: Likely pneumonia.  Continue vanc/cefepime.  Will increase
   steroids to 60mg daily.  Will check LENIS.  Oxygenation reamins tenuous
 too unstable at moment to send to CT scanner.  Hemoptysis likely [**1-19**]
   pneumonia/bronchiectasis in combination with ASA/Plavix.  Will not
   start empiric heparin due to bleeding risk.
   2. Pulmonary Fibrosis: Steroids, NAC
   Communication: Daughter
 met with daughter today to update her on
   father status
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-7-16**] 06:21 PM
   18 Gauge - [**2189-7-16**] 06:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Present with Dr. [**Last Name (STitle) 741**] and Dr. [**Last Name (STitle) 7405**] in interviewing patient with
   Farsee interpreter.  Pt reiterated wish to be intubated, though would
   not want to be on the ventilator for an extended period of time if it
   became clear that he could not come off the ventilator.  Will also
   discuss patient
s overall course with Dr. [**Last Name (STitle) 549**], who knows him
   well.
   Pt is critically ill. Time spent 15 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2189-7-17**] 12:00 ------

2189-07-18 07:08:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 ULTRASOUND - At [**2189-7-17**] 10:10 AM
 ARTERIAL LINE - START [**2189-7-18**] 12:19 AM
   -When pt would get up to urinate, he would desat to high 60s. However,
   around 2200 got up to urinate and desated to 40s. Patient was intubated
   and OG tube placed.
   - Art line was placed
   - Family called
   - BLE U/S showed no DVT
   - Extensive discussion with interpreter about [**Company 157**] and goals of care.
   ICU consent signed in afternoon.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2189-7-17**] 08:01 PM
   Cefipime - [**2189-7-17**] 09:00 PM
   Ciprofloxacin - [**2189-7-17**] 11:15 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2189-7-17**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2189-7-17**] 03:04 PM
   Midazolam (Versed) - [**2189-7-18**] 12:45 AM
   Fentanyl - [**2189-7-18**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.3
C (95.5
   HR: 67 (53 - 125) bpm
   BP: 98/51(66) {88/49(62) - 98/54(68)} mmHg
   RR: 19 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,124 mL
                                                                    692 mL
   PO:
                                                                    570 mL
             TF:
   IVF:
                                                                  1,554 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                  3,640 mL
                                                                    255 mL
   Urine:
                                                                  3,640 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,516 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 913 (604 - 913) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.25/61/163/25/-1
   Ve: 12 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds
   bilatterally
   Abdominal: Soft, Non-tender, Bowel sounds present, at times, abdomen
   slighly distends w/ respiration
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   149 K/uL
   11.3 g/dL
   137 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   107 mEq/L
   139 mEq/L
   35.4 %
   17.8 K/uL
        [image002.jpg]
                             [**2189-7-16**]  07:44 PM
                             [**2189-7-16**]  08:32 PM
                             [**2189-7-17**]  02:56 AM
                             [**2189-7-17**]  07:16 AM
                             [**2189-7-17**]  11:36 AM
                             [**2189-7-18**]  12:12 AM
                             [**2189-7-18**]  01:24 AM
                             [**2189-7-18**]  02:40 AM
                             [**2189-7-18**]  02:54 AM
                             [**2189-7-18**]  06:16 AM
   WBC
   9.1
   11.0
   17.8
   Hct
   36.2
   39.2
   35.4
   Plt
   151
   170
   149
   Cr
   1.1
   0.9
   0.8
   TropT
   0.05
   0.05
   0.02
   TCO2
   23
   27
   26
   27
   29
   28
   Glucose
   [**Telephone/Fax (3) 7518**]
   Other labs: PT / PTT / INR:13.1/23.8/1.1, CK / CKMB /
   Troponin-T:79//0.02, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:93.2 %, Lymph:4.0 %, Mono:1.4 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Imaging: [**2189-7-18**] CXR: radiology read pending but position of OG and ET
   tube improved. Worsening bilateral lung infiltrates
   Microbiology: [**2189-7-16**] BC x 2: pending
   Sputum samples have been contaminated, resending today
   Urine legionella negative
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   #  Shortness of breath: Worsening IPF vs. pneumonia. Infiltrate on CXR
   and history of fevers/chills/hemoptysis suggestive of HCAP. Given that
   he has been on steroids, should consider oportunistic infections if
   clinical course does not improve. Dichotomozed [**Doctor Last Name 2617**] 4 (3 for clinical
   s/s DVT (?leg cramping), 1 for hemoptysis) suggesting PE unlikely. No
   history of PE or DVT, malignancy, immobilization, or HR>100.  Patient
   desated last night while urinating to 40s. He was intubated as a
   result.
   - BLE U/S showed no DVT
   - MI ruled out with cardiac enzymes
   - Repeat CXR today for OG tube placement and tomorrow to monitor if
   lungs worsening
   - Ventilation: Will try pressure control. If he does not tolerate, will
   paralyze the patient and look into esophageal balloon.
   - Q6 ABGs: Tolerating permissive hypercapnia as long as pH > 7.20. Will
   try to decrease FiO2 throughout the day. Goal O2 sat around 92%.
   - Increased Steroids to Solumedrol to 60mg IV in case this is worsening
   IPF
   - Cefepime, Cipro, and Vanco 1g IV q12 for HCAP. Increasing WBC likely
   [**1-19**] steroids, but pan culture if spikes.
   -  Sending endotrachial sputum culture
   #Sedation: Pt currently on versed, fentanyl, and propofol because of
   difficulty sedation.
   - Wean off propofol today.
   # Low UOP: Likely dry
   - IVF bolus 500cc x 2 already given. Will monitor. Goal UOP > 30cc/hr
   # CAD: Continue ASA, Plavix through OG
   # FEN: elevated phos, continue to monitor
   ICU Care
   Nutrition:
   Comments: NPO except meds
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-7-17**] 10:45 PM
   Arterial Line - [**2189-7-18**] 12:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments: Called HCP, [**Name (NI) **]
   (daughter), last night when patient intubated. Daughter having
   difficulty understanding prognosis/diagnosis. Social work consulted
   Code status: Full code
   Disposition:ICU

2189-07-19 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2189-7-18**] 02:50 PM
   -d/c'd propfol
   -changed PPI to H2B
   -dysynchronous with vent even when maximally sedated, so started
   parlytics
   -given 2.5L NS for hypotension; HR low and poor UOP; so put in left IJ
   line for better monitoring and access
   -sent UA for pink sediment, also sent Ulytes
   -put in for consult for tube feeds-recs received
   -high residuals >200, changed important meds to IV or PR, except Plavix
   (discuss on rounds)
   -good UOP >30cc/hr until this am, gave 500cc bolus
   -long discussion with family on seriousness of current condition
   -doing well on PCV; increased fi02 to 60% for PO2 at 65 and increased
   to 90
   7.36/43/90 most recent ABG
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2189-7-18**] 08:08 PM
   Cefipime - [**2189-7-18**] 08:19 PM
   Ciprofloxacin - [**2189-7-18**] 11:00 PM
   Infusions:
   Cisatracurium - 0.05 mg/Kg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-18**] 08:00 AM
   Fentanyl - [**2189-7-18**] 08:00 AM
   Cisatracurium - [**2189-7-18**] 11:13 AM
   Famotidine (Pepcid) - [**2189-7-18**] 10:20 PM
   Other medications:
   1000 mL NS 3. 500 mL NS 4. 500 mL NS 5. Acetylcysteine 20% 6. Aspirin
   7. Atorvastatin 8. Bisacodyl
   9. CefePIME 10. Chlorhexidine Gluconate 0.12% Oral Rinse 11.
   Cisatracurium Besylate 12. Cisatracurium Besylate
   13. Ciprofloxacin 14. Clopidogrel 15. Docusate Sodium (Liquid) 16.
   Famotidine 17. Fentanyl Citrate
   18. Heparin 19. Insulin 20. MethylPREDNISolone Sodium Succ 21.
   Midazolam 22. Senna 23. Sodium Chloride 0.9% Flush
   24. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-19**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 50 (47 - 74) bpm
   BP: 93/46(62) {88/45(60) - 114/63(80)} mmHg
   RR: 32 (25 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 84.5 kg (admission): 83.2 kg
   Height: 68 Inch
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  3,911 mL
                                                                    741 mL
   PO:
   TF:
   IVF:
                                                                  3,791 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    205 mL
   Urine:
                                                                    810 mL
                                                                    205 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,051 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 31 cmH2O
   SpO2: 91%
   ABG: 7.39/41/65/23/0
   Ve: 17.1 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen: intubated, NAD
   HEENT: pupils equally small and little reaction to light
   CV: bradycardic RR, nl s1/s2 no murmurs
   Pulm: poor air mov
t b/l
   Abd: decreased BS, soft, NTND
   Ext: no edema
   Labs / Radiology
   137 K/uL
   10.6 g/dL
   122 mg/dL
   0.8 mg/dL
   23 mEq/L
   5.0 mEq/L
   26 mg/dL
   108 mEq/L
   138 mEq/L
   32.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2189-7-18**]  10:17 AM
                             [**2189-7-18**]  11:48 AM
                             [**2189-7-18**]  12:38 PM
                             [**2189-7-18**]  04:01 PM
                             [**2189-7-18**]  08:19 PM
                             [**2189-7-18**]  08:26 PM
                             [**2189-7-18**]  11:54 PM
                             [**2189-7-19**]  03:45 AM
                             [**2189-7-19**]  04:25 AM
                             [**2189-7-19**]  05:56 AM
   WBC
   6.3
   Hct
   32.5
   Plt
   137
   Cr
   0.7
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   30
   28
   26
   25
   27
   25
   28
   26
   Glucose
   122
   Other labs: PT / PTT / INR:13.1/23.8/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:93.2 %, Lymph:4.0 %, Mono:1.4 %, Eos:0.4 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**7-19**]: HO read unchanged with different penetration
   Microbiology: [**7-18**] GPC 1+ on ET sputum
   [**7-18**] urine pending
   [**7-16**] blood pending
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
   76 male with hx of pulmonary fibrosis admitted to MICU with acute
   worsneing of baseline shortness of breath.
   #  Shortness of breath: Worsening IPF vs. pneumonia. Infiltrate on CXR
   and history of fevers/chills/hemoptysis suggestive of HCAP. Given that
   he has been on steroids, should consider opportunistic infections if
   clinical course does not improve. Dichotomozed [**Doctor Last Name 2617**] 4 (3 for clinical
   s/s DVT (?leg cramping), 1 for hemoptysis) suggesting PE unlikely. No
   history of PE or DVT, malignancy, immobilization, or HR>100.
   - Q6 ABGs: Tolerating permissive hypercapnia as long as pH > 7.20. Will
   try to decrease FiO2 throughout the day. Goal O2 sat around 92%.
   - Cont. Solumedrol to 60mg IV in case this is worsening IPF (d1 [**7-18**]);
   consider wean tomorrow
   - Cefepime, Cipro, and Vanco 1g IV q12 for HCAP D1=[**7-16**] now day 4 of
   [**9-30**] pending clinical stability. Increasing WBC likely [**1-19**] steroids,
   but pan culture if spikes; narrow with culture data.
   - F/u ET culture
   - mini- BAL today to try to get organism; if negative, may consider
   bacterial infection is unlikely etiology and d/c antibiotics
   -needs Vanc ID approval
   #Sedation: Pt currently on versed, fentanyl, and Cisatracurium because
   of difficulty with vent synchrony.
   - Try drug holiday today by first decreading paralysis.
   # Low UOP: Likely dry given CVP of 4
   - IVF bolus prn for UOP >30 cc/hr
   # CAD: Continue ASA, Plavix
   # FEN: tube feeds Nutren Pulmonary starting today
   - add Reglan if residuals still high after trial at sedation wean
   ICU Care
   Nutrition: tube feeds starting today Nutren Pulmonary
   Lacrolube for eyes
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-7-17**] 10:45 PM
   Arterial Line - [**2189-7-18**] 12:19 AM
   20 Gauge - [**2189-7-18**] 08:00 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: plan for family meeting mid-week with Dr.
   [**Last Name (STitle) 549**] and daughters given patient would not want trache.
   Code status: full
   Disposition: icu pending above

2189-07-20 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Mini BAl collected. paralytics d/c'd, continued with fentanyl/versed
   sedation.  UOP remained >30, so no fluid boluses required. ABGs
   consistent. No acute events.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-7-19**] 10:00 AM
   Cefipime - [**2189-7-19**] 08:00 PM
   Vancomycin - [**2189-7-19**] 08:58 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-19**] 04:00 PM
   Famotidine (Pepcid) - [**2189-7-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 47 (43 - 54) bpm
   BP: 107/54(72) {91/42(58) - 111/54(73)} mmHg
   RR: 32 (30 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86.5 kg (admission): 83.2 kg
   Height: 68 Inch
    CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  2,323 mL
                                                                    360 mL
   PO:
   TF:
                                                                    269 mL
                                                                    242 mL
   IVF:
                                                                  1,824 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    320 mL
   Urine:
                                                                  1,050 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,273 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: 7.41/42/85.[**Numeric Identifier 433**]/25/1
   Ve: 14.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   11.0 g/dL
   142 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   30 mg/dL
   106 mEq/L
   137 mEq/L
   33.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2189-7-18**]  08:26 PM
                             [**2189-7-18**]  11:54 PM
                             [**2189-7-19**]  03:45 AM
                             [**2189-7-19**]  04:25 AM
                             [**2189-7-19**]  05:56 AM
                             [**2189-7-19**]  08:04 AM
                             [**2189-7-19**]  02:02 PM
                             [**2189-7-19**]  08:06 PM
                             [**2189-7-20**]  12:31 AM
                             [**2189-7-20**]  05:00 AM
   WBC
   6.3
   8.5
   Hct
   32.5
   33.4
   Plt
   137
   147
   Cr
   0.8
   0.9
   TropT
   <0.01
   TCO2
   27
   25
   28
   26
   25
   26
   27
   28
   Glucose
   122
   142
   Other labs: PT / PTT / INR:12.2/27.3/1.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:91.8 %, Lymph:5.4 %, Mono:2.6 %, Eos:0.2 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 76M with IPF recently admitted with
   presumed IPF exacerbation now a/w acute worsening SOB, hypoxemia,
   fever, chills and R infiltrate consistent with HCAP.
   #  Shortness of breath: Pt presenting with worsening SOB and increased
   oxygen requirement associated with fever, chills, and leukocytosis most
   consistent with HCAP. Given R infiltrate concern for new development of
   PNA vs worsening of fibrotic lung disease. Since has been hospitalized
   within last 30 days and has been in rehab, will treat empirically for
   health care associated pneumonia while awaiting cx data. Given
   prolonged course of steroids, also at increased risk of opportunistic
   pathogens and should be considered immunosupressed if no improvement
   with Abx covering typical health care associated pathogens. If all cx
   negative, will consider d/c antibiotics and continuing treatment with
   steroids for flare of fibrotic lung disease although no good data
   indicating this is beneficial. Will continue outpt NAC. PE also on
   differential given acute onset but less likely with abnormalities on
   CXR, chills, and fever to 102 which suggest infectious process more
   likely. Dichotomozed [**Doctor Last Name 2617**] 4 (3 for clinical s/s DVT (?leg cramping), 1
   for hemoptysis) suggesting PE unlikely. No history of PE or DVT,
   malignancy, immobilization, or HR>100 now.
   - cefepime, Vanco for HCAP
   - check legionella urinary Ag
   - blood cx, sputum cx
   - home steroid dose and NAC
   - d/w outpt pulm Dr. [**Last Name (STitle) 549**] in am
   - ROMI
   .
   # IPF: Continue outpt NAC, steroids as above, will d/w outpt pulm
   .
   # Hyponatremia: Likely hypovolemic hyponatremia given dry appearance on
   exam.
   - IVF bolus 500cc and monitor
   .
   # Tachycardia: Likely secondary to fever and dehydration since has
   improved with IVF.
   - 500cc bolus as above, continue to monitor
   .
   # CAD: Continue ASA, Plavix, BB, Imdur with holding parameters
   .
   # HTN: Normotensive here.
   .
   # GERD: Resume home PPI while on high dose steroids
   .
   # FEN: 500cc bolus as above, replete electrolytes, NPo for now given
   risk of intubation
   .
   # Prophylaxis: Subcutaneous heparin, PPI as above
   .
   # Access: peripherals
   .
   # Code: Full confirmed with patient and daughter
   .
   # Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-7-19**] 08:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-7-17**] 10:45 PM
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-07-21 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   FiO2 weaned, ABG stable, tube feeds residuals 200 got KUB - no
   obstruction, decreased fentanyl due to bradycardia
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2189-7-20**] 08:00 PM
   Cefipime - [**2189-7-20**] 08:00 PM
   Ciprofloxacin - [**2189-7-20**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-7-20**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 38 (37 - 64) bpm
   BP: 138/65(91) {105/49(68) - 145/69(92)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86.5 kg (admission): 83.2 kg
   Height: 68 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  2,333 mL
                                                                    120 mL
   PO:
   TF:
                                                                    723 mL
   IVF:
                                                                  1,340 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    700 mL
   Urine:
                                                                  1,260 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,073 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.48/36/263/26/4
   Ve: 14.7 L/min
   PaO2 / FiO2: 658
   Physical Examination
   Neuro: sedated, not responsive to sound or painful stimuli
   CV: rrr, no r/g/m
   Resp: coarse breath sounds throughout, anterior lung exam
   Labs / Radiology
   155 K/uL
   11.3 g/dL
   134 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   25 mg/dL
   105 mEq/L
   137 mEq/L
   34.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2189-7-19**]  05:56 AM
                             [**2189-7-19**]  08:04 AM
                             [**2189-7-19**]  02:02 PM
                             [**2189-7-19**]  08:06 PM
                             [**2189-7-20**]  12:31 AM
                             [**2189-7-20**]  05:00 AM
                             [**2189-7-20**]  11:40 AM
                             [**2189-7-20**]  01:42 PM
                             [**2189-7-21**]  03:53 AM
                             [**2189-7-21**]  04:06 AM
   WBC
   8.5
   6.5
   Hct
   33.4
   34.0
   Plt
   147
   155
   Cr
   0.9
   0.7
   TCO2
   26
   25
   26
   27
   28
   27
   26
   28
   Glucose
   142
   134
   Other labs: PT / PTT / INR:12.6/31.1/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:92.8 %, Lymph:5.2 %, Mono:1.7 %, Eos:0.1 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 BRADYCARDIA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan
   Assessment and Plan: This is a 76M with IPF admitted for SOB likely IPF
   exacerbation vs pneumonia.
   #  Shortness of breath: The patient presented with worsening SOB and
   increased O2 requirement with fever, chills and leukocytosis. Possible
   R infiltrate so concern for development of PNA vs worsening of fibrotic
   lung disease. The patient was hospitalized in the last 30 days and has
   been in rehab, thus empiric abx coverage will cover health care
   associated PNA. The patient also has been on a course of steroids, thus
   may be immunosuppressed. The patient has been afebrile since admission
   and does not have a leukocytosis. Thus making pulm fibrosis more
   likely. The patient is currently intubated on PCV + assist with good
   ABG. CXR shows diffuse opacities.
   - cefepime, vancomycin and ciprofloxacin day [**5-27**] for HCAP
   - continue steroids and NAC for now
   - ABG adequate, wean FiO2 and sedation as tolerated, q6h ABG
   - Daily wake up, consider SBT if tolerating well
   - Await cultures for  blood, sputum and mini BAL (even if negative
   continue course of abx)
   - CXR
   .
   # Sedation: Patient was d/c from cisatracurium. Currently synchronous
   with vent.
   - decrease fentanyl
   - versed
   .
   # IPF: Continue outpt NAC. Continue trial of steroids
   .
   # Bradycardic: Patient continues to be bradycardic in the 30
s. Unable
   to assess MS, however, good UOP, warm extremities, no signs of poor
   perfusion that we are able to measure. No treatment at this time.
   Continue to monitor. Consider atropine or pacing if needed. EKG showed
   sinus bradycardia.
   - decreased fentanyl
   .
   # UOP: adequate yesterday. Goal of >30cc/hour
   .
   # CAD: Continue ASA, Plavix
   .
   # FEN: tube feeds Nutren Pulmonary starting today, add fiber, high
   residuals, bisadocyl PR until bowel movement
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   .
   # Access: peripherals, R IJ triple lumen, L A-line
   .
   # Code: Full confirmed with patient and daughter
   .
   # Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-07-22 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SOB
   24 Hour Events:
   -Weaned from pressure control to pressure-support ventilation, with
   stable ABG but development of apnea. Switched to mandatory minute
   ventilation/pressure support ventilation, with continued stable ABG.
   Switched back to CPAP overnight.
   -Sedation weaned (Versed as low as 2 mg/hr) but increased again due to
   agitation yesterday. Increased again overnight due to significant
   agitation (100 mcg/hr Fentanyl, 8 mg/hr Versed). Yesterday spoke with
   nurse [**First Name (Titles) **] [**Last Name (Titles) 7581**] interpreter; he was able to nod his head but
   occasionally answered inappropriately.
   -UOP remained >30 mL/hr.
   -Bowel regimen initiated for increased tube feed residuals and
   decreased bowel movements. No bowel movements occurrred. Tube feed
   residuals present (amt not recorded).
   -Persistent bradycardia despite decreased Fentanyl.
   -Family meeting with social work today, 1PM.
   -PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 7579**] updated via email but she is on maternity leave.
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-20**] 08:00 PM
   Ciprofloxacin - [**2189-7-21**] 09:43 AM
   Vancomycin - [**2189-7-21**] 08:23 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2189-7-21**] 09:43 AM
   Fentanyl - [**2189-7-21**] 12:39 PM
   Famotidine (Pepcid) - [**2189-7-21**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-22**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-22**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 47 (43 - 72) bpm
   BP: 123/57(77) {108/54(72) - 165/75(107)} mmHg
   RR: 10 (8 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,419 mL
                                                                    378 mL
   PO:
             TF:
                                                                    232 mL
                                                                    236 mL
   IVF:
                                                                  1,067 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,721 mL
                                                                    770 mL
   Urine:
                                                                  1,721 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 796 (793 - 1,047) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 19
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/45/74/28/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Sedated. Responsive to voice.
   Head, Ears, Nose, Throat: moist mucous membranes
   Cardiovascular: Regular rhythm, bradycardic. Normal S1 and S2.
   Peripheral Vascular: 1+ DP bilaterally.
   Respiratory / Chest: Crackles bilaterally on anterior exam
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Labs / Radiology
   172 K/uL
   12.0 g/dL
   121 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.5 mEq/L
   27 mg/dL
   102 mEq/L
   134 mEq/L
   34.9 %
   10.4 K/uL
        [image002.jpg]
                             [**2189-7-20**]  01:42 PM
                             [**2189-7-21**]  03:53 AM
                             [**2189-7-21**]  04:06 AM
                             [**2189-7-21**]  07:32 AM
                             [**2189-7-21**]  08:56 AM
                             [**2189-7-21**]  09:53 AM
                             [**2189-7-21**]  04:21 PM
                             [**2189-7-21**]  11:39 PM
                             [**2189-7-22**]  04:24 AM
                             [**2189-7-22**]  06:27 AM
   WBC
   6.5
   10.4
   Hct
   34.0
   34.9
   Plt
   155
   172
   Cr
   0.7
   0.8
   TCO2
   26
   28
   28
   28
   25
   27
   30
   31
   Glucose
   134
   121
   Other labs: PT / PTT / INR:13.0/45.9/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:19/30, Alk Phos / T Bili:69/0.6,
   Differential-Neuts:92.7 %, Lymph:4.4 %, Mono:2.4 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:394 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   CXR from [**2189-8-22**]: Interpretation limited by axial rotation. No apparent
   changes to diffuse lung opacities.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia.
   # Respiratory Failure: The patient presented with SOB and increased O2
   requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation vs pneumonia. The patient is currently
   intubated on CPAP/PSV. Continues to be afebrile and without
   leukocytosis since admission.
   - Continue to wean ventilator as tolerated. Consider spontaneous
   breathing trial in 24 hrs, with pulmonary toilet in the interim.
   - Continue antibiotics of cefepime, vancomycin and ciprofloxacin day
   [**6-26**] for health care associated pneumonia
   - ABG q24hours, adjust vent as necessary
   - Sputum culture today--follow up results
   - CXR
   # Sedation: Initially on paralytics for dysnchronous respiration on
   ventilator; paralytics d/c
d 3 days ago. Now on Fentanyl and Versed,
   with attempts to wean associated with agitation.  Unclear if agitation
   represents delirium vs. expression of his readiness to be weaned from
   intubation.
   -[**Month/Year (2) 7581**] interpreter today to assess delirium vs. cogent desire to be
   extubated.
   -Otherwise continue wean sedation as tolerated without excessive
   agitation.
   #Tube feed residuals: Persistent despite augmentation of bowel regimen.
   Although a pro-kinetic [**Doctor Last Name 23**] such as Reglan could be used to stimulate
   his GI tract, extubation would resolve this problem without the
   initiation of a potentially agitation-inducing medication.
   -If he remains intubated past Friday, we could consider starting
   Reglan.
   -Nurse to record residuals volume.
   # IPF: On outpatient NAC and steroids. Given lack of compelling
   evidence for use of steroids in this patient and his risk of
   delirium/agitation, weaning steroids may be appropriate.
   -Wean steroids by 10% after confirmation by pulm doctor, Dr. [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 549**].
   # Bradycardic: Patient continues to be bradycardic; baseline in
   outpatient setting is 50s. Consider atropine or pacing if signs of poor
   perfusion; otherwise, his HR will likely improve following weaning of
   sedation (especially Fentanyl).
   - Wean Fentanyl, as per above.
   # UOP: UO adequate yesterday.
   - Goal of >30cc/hour
   # CAD: Continue ASA, Plavix
   # FEN: Continue tube feeds Nutren Pulmonary
   # Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   # Access: peripherals, R IJ triple lumen, L A-line
   # Code: Full confirmed with patient and daughter
   # Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-7-22**] 01:02 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-07-23 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 72 year old male with a history of idiopathic
   pulmonary fibrosis who was admitted for dyspnea, fevers, and
   leukocytosis.
   24 Hour Events:
   Ventilator weaned with stable ABG. Sedation decreased and was seen with
   Farsi interpreter
he was following commands, MS appears appropriate.
   Farsi interpreter available on page in the afternoon, and can be here
   around 1:30pm if we would like to extubate.  Dr. [**Last Name (STitle) 7603**] advised a
   steroid taper (decrease by 10 mg QD x 10 days to final total dose of 40
   mg) and advised Bactrim for prophylaxis PCP.  [**Name10 (NameIs) 7604**] [**Name11 (NameIs) 1349**] adequate all
   day. Tube feed residuals 60 mL and episode of emesis while being
   repositioned that resolved with OG tube placement x1 hr with
   intermittent suction.
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-22**] 08:42 PM
   Vancomycin - [**2189-7-22**] 09:00 PM
   Ciprofloxacin - [**2189-7-22**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-22**] 04:00 PM
   Famotidine (Pepcid) - [**2189-7-22**] 10:00 PM
   Other medications:
   Changes to medical and family history: N/A
   Review of systems is unchanged from admission except as noted below
   Review of systems: No change
   Flowsheet Data as of  [**2189-7-23**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 46 (45 - 67) bpm
   BP: 134/64(87) {108/50(68) - 175/82(115)} mmHg
   RR: 17 (8 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  2,717 mL
                                                                    124 mL
   PO:
             TF:
                                                                    951 mL
   IVF:
                                                                  1,386 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    800 mL
   Urine:
                                                                  2,500 mL
                                                                    700 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    217 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 880 (269 - 941) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.42/47/80.[**Numeric Identifier 500**]/30/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Sedated, responds to sounds
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: Regular rhythm, bradycardic, normal S1 and S2
   Peripheral Vascular: 1+ dorsalis pedis, 2+ edema of upper and lower
   extremities
   Respiratory / Chest: Crackles bilaterally on anterior exam
   Abdominal: Soft, bowel sounds present
   Skin:  Warm
   Labs / Radiology
   180 K/uL
   11.3 g/dL
   133 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.3 mEq/L
   22 mg/dL
   101 mEq/L
   136 mEq/L
   33.0 %
   7.4 K/uL
        [image002.jpg]
                    Hct stable.                                     BUN
   trending down from peak of 30 on [**2189-7-20**].
                             [**2189-7-21**]  07:32 AM
                             [**2189-7-21**]  08:56 AM
                             [**2189-7-21**]  09:53 AM
                             [**2189-7-21**]  04:21 PM
                             [**2189-7-21**]  11:39 PM
                             [**2189-7-22**]  04:24 AM
                             [**2189-7-22**]  06:27 AM
                             [**2189-7-22**]  04:40 PM
                             [**2189-7-23**]  03:49 AM
                             [**2189-7-23**]  04:00 AM
   WBC
   10.4
   7.4
   Hct
   34.9
   33.0
   Plt
   172
   180
   Cr
   0.8
   0.7
   TCO2
   28
   28
   25
   27
   30
   31
   29
   32
   Glucose
   121
   133
   Other labs: PT / PTT / INR:13.0/41.2/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:28/27, Alk Phos / T Bili:63/0.8,
   Differential-Neuts:91.7 %, Lymph:5.0 %, Mono:3.1 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:363 IU/L, Ca++:8.2 mg/dL
   (corrected for albumin =9.2), Mg++:2.3 mg/dL, PO4:3.4 mg/dL
Micro: >25 PMNs and >10 epithelial cells/100X field. Gram stain indicates extens
ive contamination with upper respiratory secretions. Bacterial culture subsequen
tly cancelled.
CXR: No interval change in widespread parenchymal opacities.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation vs pneumonia. The patient is currently
   intubated on CPAP/PSV. Continues to be afebrile and without
   leukocytosis since admission. Has tolerated weaning of ventilator with
   stable ABG. Dr. [**Last Name (STitle) 549**] rec
d PCP prophylaxis for immunosuppression
   from steroid use.
   - Continue to wean ventilator as tolerated.
   - SBP, with extubation this afternoon if appropriate.
   - Farsi interpreter to be present at the time of extubation
page prior
   to extubation.
   - Given baseline agitation/anxiety, consider Haldol if agitation occurs
   at the time of extubation.
   - Continue empiric antibiotics of cefepime, vancomycin and
   ciprofloxacin day [**7-27**] for health care associated pneumonia.
   -Start Bactrim for PCP prophylaxis today.
   - ABG after extubation.
   - CXR
   2) Sedation: Initially on paralytics for dysnchronous respiration on
   ventilator; paralytics d/c
d 3 days ago. Now on Fentanyl and Versed,
   with past attempts to wean associated with agitation.  MS appropriate
   yesterday with Farsi interpreter
agitation less likely due to delirium.
   Currently on Fentanyl 50 mcg/hr and Versed 6 mg/hr. Because he has been
   on Versed for several days, there is concern for benzo withdrawal; we
   can consider CIWA protocol if withdrawal signs are apparent.
   -Continue wean sedation as tolerated, with goal of extubation today if
   appropriate.
   -Observe for benzo withdrawal.
   3) [**Month/Year (2) 1349**]: [**Month/Year (2) 7604**] UO adequate yesterday, but he was still positive 200mL
   in the past 24hr, with LOS fluid balance of 3.6 L. He would benefit
   from diuresis to optimize diuresis. He is Lasix-na
   -Start with Lasix 20 mg IV, with drip as need to a goal of -1L/24hr
   4) Tube feed residuals: Persistent despite augmentation of bowel
   regimen. Will hopefully resolve with extubation. If he remains
   intubated, we could consider a pro-kinetic [**Doctor Last Name 23**] such as Reglan.
   -Plan for extubation today, as per above.
   5) IPF: On outpatient NAC and steroids. Given lack of compelling
   evidence for use of steroids in this patient and his risk of
   delirium/agitation, weaning steroids is appropriate; Dr. [**Last Name (STitle) 549**]
   agrees.
   -Steroid taper steroid taper 10 mg per day for 10 days to 40 mg, per
   Dr. [**Last Name (STitle) 549**]
s recs.
   6) Bradycardia: Patient continues to be bradycardic with some
   improvement; baseline in outpatient setting is 50s. Consider atropine
   or pacing if signs of poor perfusion; otherwise, his HR will likely
   improve following weaning of sedation (especially Fentanyl).
   -Continue to wean Fentanyl, as per above.
   7) CAD: Continue ASA, Plavix
   8) FEN:
   -D/C tube feeds for extubation today. NPO if extubated.
   - Continue ISS for glycemic control
   9) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   10) Access: peripherals, R IJ triple lumen, L A-line
   11) Code: Full confirmed with patient and daughter
   12) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   13) Disposition: pending above
   ICU Care
   Nutrition: D/c tube feeds for extubation. NPO if extubated.
   Glycemic Control:  ISS
   Lines:
   -Arterial Line - [**2189-7-18**] 12:19 AM
   -Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT:  subcutaneous heparin, SCD
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Patient, daughter [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   [**Name2 (NI) 129**] status: Full
   Disposition: pending above

2189-07-24 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old man with a history of idiopathic pulmonary
   fibrosis, admitted for dyspnea, fevers, and leukocytosis concerning for
   IPF vs. pneumonia.
   24 Hour Events:
   Pt  weaned of sedation and extubated SpO2 95%, ABG stable, on facemask
   100%. Initial attempt to wean to 80% FiO2 lead to ABG PaO2 of 60.
   Weaned to 60% this AM, with O2 sat 95%, ABG pending.
   Received Lasix 20 mL IV. Decreased steroids by 10mg per Dr.[**Name (NI) 7618**]
   suggestion. Started bactrim.
   Received Zofran for nausea, 5mg hydralazine for HTN, Haldol for
   agitation.
   Has blood-tinged urine.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2189-7-23**] 08:00 PM
   Cefipime - [**2189-7-23**] 09:00 PM
   Ciprofloxacin - [**2189-7-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2189-7-23**] 08:00 PM
   Famotidine (Pepcid) - [**2189-7-23**] 11:30 PM
   Haloperidol (Haldol) - [**2189-7-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 65 (51 - 88) bpm
   BP: 139/60(87) {118/51(71) - 184/82(117)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,292 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                  1,232 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                    860 mL
   Urine:
                                                                  4,640 mL
                                                                    860 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,448 mL
                                                                   -787 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 496 (496 - 838) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/43/76.[**Numeric Identifier 433**]/30/6
   Ve: 16.4 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General: Alert. Attempts to communicate (limited by Farsi language
   barrirer) and follows commands.
   Cardiovascular:  Regular rate and rhythm, normal S1 and S2. 1+ edema of
   the hands and feet.
   Peripheral Vascular: 1+ dorsalis pedis bilaterally
   Respiratory / Chest: Crackles bilaterally on anterior exam)
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm, well-perfused
   Labs / Radiology
   185 K/uL
   12.4 g/dL
   120 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   36.9 %
   11.5 K/uL
        [image002.jpg]
               WBC 7.4 on [**2189-7-23**]. Hct stable.          BUN stable,
   trending down from peak of 30 on [**2189-7-20**].
                             [**2189-7-21**]  11:39 PM
                             [**2189-7-22**]  04:24 AM
                             [**2189-7-22**]  06:27 AM
                             [**2189-7-22**]  04:40 PM
                             [**2189-7-23**]  03:49 AM
                             [**2189-7-23**]  04:00 AM
                             [**2189-7-23**]  04:49 PM
                             [**2189-7-23**]  11:26 PM
                             [**2189-7-24**]  03:55 AM
                             [**2189-7-24**]  04:25 AM
   WBC
   10.4
   7.4
   11.5
   Hct
   34.9
   33.0
   36.9
   Plt
   172
   180
   185
   Cr
   0.8
   0.7
   0.8
   TCO2
   30
   31
   29
   32
   34
   32
   32
   Glucose
   121
   133
   120
   Other labs: PT / PTT / INR:12.1/36.2/1.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:32/39, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:92.5 %, Lymph:5.0 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:510 IU/L (was 363 on [**2189-7-23**]),
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation vs pneumonia. He was extubated yesterday with
   stable ABG. On facemask 60% FiO2. Continues to be afebrile, now with
   mild leukocytosis. No CXR today.
   - Continue empiric antibiotics of cefepime, vancomycin and
   ciprofloxacin day [**7-27**] for health care associated pneumonia and Bactrim
   day 2 for PCP [**Name Initial (PRE) 3261**].
   - Wean FiO2 as tolerated
   -Follow up on AM ABG.
   -Speech and swallow consult. NPO pending consult.
   - PT consult .
   2) Blood-tinged urine with Foley. Differential diagnosis includes UTI,
   ATN, mechanical injury with Foley. Last U/A was [**2189-7-18**]. He has a
   slightly increased WBC. BUN and Cr stable.
   -UA and UCx
   3) HTN: Off of home Imdur 60 mg PO. SBP to 185, responded well to
   Hydralazine 5 mg IV.
   -Restart Imdur 30 mg PO pending speech and swallow
   4) UOP: Adequate yesterday, with total LOS fluid balance of -750 mL
   with Lasix 20 mg IV and apparent autodiuresis following extubation.
   Will likely continue to autodiurese, but we can use Lasix as needed to
   reach UOP goal.
   -Goal of  -1L/24hr fluid balance today.
   -Consider Lasix 20 mL IV x1 if needed to achieve fluid balance goal.
   5) Agitation. History of agitation/anxiety. Has received Haldol, with
   improvement of agitation.
   -Continue Haloperidol 0.25 mg IV TID PRN agitation
   6) Elevated LDH. LDH was 394 on [**2189-7-16**], 363 on [**2189-7-23**]. Differential
   diagnosis includes anemia of chronic disease and accumulative effect of
   steroids, antibiotics, and/or opiates. Liver disease less likely given
   stable and normal transaminases. Hypoperfusion less likely given normal
   lactic acid. Will withhold intervention at this time and will continue
   to monitor.
   -Trend LDH.
   7) IPF: On outpatient NAC and steroids. Given lack of compelling
   evidence for use of steroids in this patient and his risk of
   delirium/agitation, weaning steroids is appropriate; Dr. [**Last Name (STitle) 549**]
   agrees. PO acetylcysteine held.
   -Continue steroid taper steroid taper 10 mg per day for 10 days to 30
   mg IV Q8H, per Dr. [**Last Name (STitle) 549**]
s recs.
   -Will need to restart NAC PO pending speech and swallow recs.
   8) Constipation: KUB on [**2189-7-21**] without obstruction. Continues to not
   have bowel movement. Bowel sounds present.
   -Continue bowel regimen.
   9) Bradycardia: Resolved following weaning off of sedation and
   extubation. Will continue to monitor.
   10) CAD:
   -Continue ASA, Plavix.
   -Restart Imdur 30 mg PO pending speech and swallow evaluation, as per
   above.
   -Held PO atorvastatin due to NPO. Will restart pending speech and
   swallow evaluation, as per above.
   11) FEN:
   -NPO pending speech and swallow today. Consider NG tube placement if
   fails speech and swallow.
   - Continue ISS for glycemic control
   12) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   13) Access: peripherals, R IJ triple lumen, L A-line
   14) Code: Full confirmed with patient and daughter
   15) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   16) Disposition: pending above
   ICU Care
   Nutrition: NPO pending speech and swallow today. Consider NG tube
   placement if fails speech and swallow.
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT:  SC heparin, SCD
   Stress ulcer:  H2blocker
   VAP:
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: pending above

2189-07-25 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old male with a history of idiopathic
   pulmonary fibrosis admitted for dyspnea, fevers, and leukocytosis
   suspected to be IPF exacerbation versus pneumonia.
   24 Hour Events:
   --Weaned to 60% O2 with 02 sat generally >/=92%. Desaturation with
   repositioning to 85% with resolution not without intervention.
   --Speech and swallow recommended that he remain NPO at this time, with
   alternate means of nutrition, hydration, and medications over the
   weekend. Essential meds may be given crushed with puree, strictly NPO
   if status worsens. Speech and swallow will re-evaluate next week. His
   nurse said that he is more alert than when evaluated by speech and
   swallow this AM and tolerated meds crushed in thick
   liquid/puree--suggested team re-evaluate this PM whether he needs an NG
   tube placement vs. can tolerate slow advancement of diet.
   --Started Imdur 30 mg PO yesterday with improvement to hypertension.
   --Received Zofran for nausea. Overnight, developed cramping abdominal
   pain without tenderness to palpation after several hours dry heaves.
   Also has not had BM in 10days. KUB showed stool in rectal vault, air
   throughout indicating no obstruction. Large BM (guaiac negative) this
   AM. No abdominal pain this AM.
   --Continues with blood-tinged urine by Foley.
   --Exceeded I/O goal of net -1L without need for Lasix, with stable BUN
   and Cr.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-23**] 09:00 PM
   Ciprofloxacin - [**2189-7-24**] 10:00 AM
   Vancomycin - [**2189-7-24**] 08:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-7-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-25**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 90 (56 - 106) bpm
   BP: 138/65(87) {127/53(75) - 172/78(104)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                    951 mL
                                                                     74 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    891 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    510 mL
   Urine:
                                                                  3,240 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,289 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.49/36/52/28/4  performed following desat after coughing
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: No acute distress. Alert, communicative. No
   desaturation with extended talking.
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Peripheral Vascular: 1+ dorsalis pedis, 1+ edema of the hands and feet
   Respiratory / Chest: Crackles bilaterally on anterior exam, persistent
   but improved.
   Abdominal: Soft, non-tender, bowel sounds present.
   Skin:  Warm, well-perfused.
   Labs / Radiology
   185 K/uL
   12.4 g/dL
   117 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   26 mg/dL
   104 mEq/L
   139 mEq/L
   36.9 %
   11.5 K/uL
        [image002.jpg]
                 CBC from [**2189-7-24**]                               BUN 22 on
   [**2189-7-24**].
                             [**2189-7-22**]  04:40 PM
                             [**2189-7-23**]  03:49 AM
                             [**2189-7-23**]  04:00 AM
                             [**2189-7-23**]  04:49 PM
                             [**2189-7-23**]  11:26 PM
                             [**2189-7-24**]  03:55 AM
                             [**2189-7-24**]  04:25 AM
                             [**2189-7-24**]  12:50 PM
                             [**2189-7-25**]  04:09 AM
                             [**2189-7-25**]  04:46 AM
   WBC
   7.4
   11.5
   Hct
   33.0
   36.9
   Plt
   180
   185
   Cr
   0.7
   0.8
   0.9
   TCO2
   29
   32
   34
   32
   32
   30
   28
   Glucose
   133
   120
   117
   Other labs: PT / PTT / INR:13.7 (12.1 on [**2189-7-24**]) /36.3 (36.2 on [**2189-7-24**])
   /1.2, CK / CKMB / Troponin-T:21//<0.01, ALT / AST:32/39, Alk Phos / T
   Bili:74/1.0, Differential-Neuts:92.5 %, Lymph:5.0 %, Mono:2.5 %,
   Eos:0.0 %, Albumin:2.8 g/dL, LDH:597 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:3.2 mg/dL
   U/A: [**Location (un) **] in color, lg blood on dipstick, pH 8.5, protein 30,
   urobiligen 1, neg for leukocytes/nitrite/ketones/bilirubin/glucose.
   Microscopic urine exam pending. Few amorphous crystals.
   Imaging:
   KUB on 8/70/09: Non-specific bowel gas pattern. Stool in rectal vault,
   air throughout indicating no obstruction.
   CXR on [**2189-7-24**]: No interval change in diffuse parenchymal opacities. No
   increase in pleural effusion or pneumothorax.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with improving
   respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation vs pneumonia. He was extubated 2 days ago and
   is currently on facemask 60% FiO2. Most recent ABGs shows worsening
   hypoxemia and respiratory alkalosis, but it was performed during a
   desaturation event following a tussive episode and lacks concordance
   with SpO2 trends of >90%. Moreover, on physical exam, he has been able
   to maintain the work of breathing. Following O2 saturation may be more
   instructive than ABGs given his lack of hypercarbia. He continues to be
   afebrile, with mild leukocytosis yesterday.
   --Check CBC to trend WBCs.
   -- D/C empiric antibiotics of cefepime, vancomycin and ciprofloxacin
   day (received day [**8-27**] for health care associated pneumonia) given no
   evidence of pneumonia.
   -- Continue Bactrim day 3 for PCP [**Name Initial (PRE) 3261**].
   --ABG and CXR prn changing clinical status.
   2) Diet: Currently NPO except for crushed meds in puree, which he has
   tolerated. Daughter prefers that NG tubes should be viewed as last
   resort. Because he is more alert than when evaluated by speech and
   swallow and since he has tolerated meds in puree, he will likely
   tolerate advancing his diet to thick foods/purees. Speech and swallow
   will re-evaluate on Monday.
   --Advance to dysphagia diet.
   3) Blood-tinged urine with Foley. Differential diagnosis includes
   mechanical injury with Foley, glomerulonephritis, ATN, and UTI. UTI
   less likely given normal UA. Glomerulonephritis and ATN less likely
   given normal Cr and UOP.
   -Monitor UOP, with goal of 30cc/hr.
   -Will check CBC today as per above to trend Hct.
   4) UOP: Adequate auto-diuresis yesterday without Lasix. Given currently
   negative LOS fluid balance of -1.6L, no evidence of overload on CXR,
   and no peripheral edema , there is no indication for aggressive
   diuresis today.
   -Goal of  30cc/hr today, as per above.
   5) Elevated LDH: Trending up, with LDH of 394 on [**2189-7-16**] and 363 on
   [**2189-7-23**]. Differential diagnosis includes infection, hemolysis,
   hypoperfusion, and accumulative effect of steroids, antibiotics, and/or
   opiates. Mild leukocytosis yesterday. Normal Tbili and stable Hct
   yesterday make hemolysis less likely.  Stable and normal transaminases
   yesterday make liver pathology less likely. Last lactate was 0.9 on
   [**2189-7-22**].
   -Continue trending LDH.
   -Check CBC, as per above.
   6) Prolonged PT/PTT. Differential diagnosis heparin therapy and/or
   insufficient nutrition.
   -Advance diet, as per above.
   -Consider vitamin K for further increases of INR and/or decreasing
   heparin SC from 5000 units TID to [**Hospital1 **] for further prolongation of PTT
   if coags do not resolve with dietary advancement.
   7) Agitation. History of agitation/anxiety. Has received Haldol, with
   improvement of agitation.
   -Continue Haloperidol 0.25 mg IV TID PRN agitation.
   8) HTN: SBP 172 on Imdur 30 mg PO. He would likely benefit from further
   control with his home dose of Imdur 60 mg PO.
   -Increase Imdur to 60 mg PO  .
   9) IPF: On outpatient NAC and steroids. Tapering steroids per Dr.
   [**Last Name (STitle) 549**]
s recommendations over 10 days to 40 mg.
   -Continue methylprednisolone at 30 mg IV Q8H today; decrease by 10 mg
   tomorrow.
   -Continue NAC PO .
   10) Constipation: KUB without obstruction. Large BM this AM.
   -Continue bowel regimen.
   11) Bradycardia: Resolved following weaning off of sedation and
   extubation. Will continue to monitor.
   10) CAD:  Continue ASA, Plavix, Imdur, Atorvastatin.
   11) FEN:
   -Dysphagia diet, as per above.
   - Continue ISS for glycemic control.
   12) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   13) Access: peripherals, R IJ triple lumen, L A-line
   14) Code: Full confirmed with patient and daughter
   15) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   16) Disposition: pending above.
   ICU Care
   Nutrition: Dysphagia diet
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT: SC heparin, SCD
   Stress ulcer:  H2 blocker
   VAP:
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: pending above.

2189-07-26 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -O2 sat >/=95% on FiO2 60 by face mask. However, overnight, he had a
   tachypneic with crackles at lung bases; required Lasix 20 mg IV and
   FiO2 100 with resolution of acute tachypnea and clearing of lungs.
   Sense weaned down to FiO2 60 with stable SpO2.
   -BM x2 (guaiac negative)
   -UOP adequate; goal 30 cc/hr
   -Diet advanced to dysphagia diet.
   -D/C'd abx for HCAP (cefepime, vanco, cipro). Continued Bactrim for PCP
   [**Name Initial (PRE) 3261**].
   -Imdur increased to 60 mg PO QD (outpatient dose) for HTN; will receive
   first dose of 60mg at 8:00AM today.
   -NAC restarted (previously held for NPO).
   -Hct down from 36.5 to 33.1. B12/folate/LFTs collected today.
   -Has required only 4 units of ISS during stay. Decreased fingersticks
   to bedtime and fasting QAM.
   -Reports frequent cough and subsequent difficulty sleeping.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Cefipime - [**2189-7-23**] 09:00 PM
   Ciprofloxacin - [**2189-7-24**] 10:00 AM
   Vancomycin - [**2189-7-24**] 08:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-25**] 04:00 PM
   Famotidine (Pepcid) - [**2189-7-25**] 08:12 PM
   Haloperidol (Haldol) - [**2189-7-26**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 85 (55 - 102) bpm
   BP: 124/63(81) {95/50(64) - 164/71(97)} mmHg
   RR: 29 (22 - 39) insp/min
   SpO2: 96% on FiO2 60
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
                  Total In:
                                                                    251 mL
                  PO:
                  TF:
   IVF:
                                                                    251 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                  1,250 mL
   Urine:
                                                                  1,630 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,379 mL
                                                                 -1,250 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 60%
   ABG: 7.51/33/64/25/3 (at the time of the tachypneic episode, on FiO2
   100)
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: Alert, communicative, and appropriate.
   Eyes / Conjunctiva: Sclera anicteric.
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Peripheral Vascular: 1+ Dorsalis pedis. Trace edema of the feet and
   hands.
   Respiratory / Chest: Clear on anterior exam.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Labs / Radiology
   172 K/uL
   11.9 g/dL
   106 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   27 mg/dL
   104 mEq/L
   138 mEq/L
   35.9 %
   12.1 K/uL
        [image002.jpg]
                WBC up from 10.1 yesterday
                 Hct up from 32.0                             BUN up from
   26 yesterday.
                             [**2189-7-23**]  04:49 PM
                             [**2189-7-23**]  11:26 PM
                             [**2189-7-24**]  03:55 AM
                             [**2189-7-24**]  04:25 AM
                             [**2189-7-24**]  12:50 PM
                             [**2189-7-25**]  04:09 AM
                             [**2189-7-25**]  04:46 AM
                             [**2189-7-25**]  06:25 PM
                             [**2189-7-26**]  04:08 AM
                             [**2189-7-26**]  04:16 AM
   WBC
   11.5
   10.9
   10.1
   12.1
   Hct
   36.9
   33.1
   32.0
   35.9
   Plt
   185
   174
   191
   172
   Cr
   0.8
   0.9
   0.9
   TCO2
   34
   32
   32
   30
   28
   27
   Glucose
   120
   117
   106
   Other labs: PT / PTT / INR:13.7/36.6/1.2 (all stable from yesterday),
   CK / CKMB / Troponin-T:21//<0.01, ALT / AST:34/45, Alk Phos / T
   Bili:76/1.4, Differential-Neuts:95.0 %, Lymph:3.7 %, Mono:1.2 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:631 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   B12 1147, Folate 11.9
   U/A microscopic analysis with >50 RBC, 21-50 WBC and many bacteria;
   negative for leuk and nitrite.
   Urine Cx pending.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with improving
   respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. No signs of infection during admission. He was
   extubated 3 days ago and was stable most of yesterday on 60% FiO2, Sp02
   generally >/= 90%. He completed 9/10 days of cefepime, vancomycin and
   ciprofloxacin day for health care associated pneumonia, which was
   discontinued for lack of evidence of pneumonia. Resolution of
   tachypneic episode last night with increased O2 and Lasix suggests that
   fluid overload may continue to limit his respiratory status. Home O2
   requirement is 2L nasal cannula, with SpO2  94%.
   --Wean FiO2 as tolerated. Attempt switch of O2 delivery from high flow
   face mask to nasal cannula.
   --Fluid balance net -2L/24hr, with Lasix IV as needed to achieve this
   goal.
   -- Continue Bactrim day 3 for PCP prophylaxis while on steroids.
   --Follow Sp02.
   --Reserve ABG and CXR for changing clinical status.
   2) Bacturia, blood-tinged urine with Foley. Diffential diagnosis for
   this isolated hematuria includes trauma and infection.
   Despite bacturia, UTI in this catheterized patient less likely given
   lack of suprapubic pain or elevated temperature. Moreover, he was on
   therapeutic doses of cefedime/vanco, and cipro at the time of the U/A.
   UCx are pending; however, positive cultures in patients with catheters
   cna be misleading; 50% have positive cultures after 5 days and nearly
   all have positive cultures after 30 days. Otherwise, further work-up
   such as imaging and biopsy is not indicated for isolated transient
   glomerular hematuria. Malignancy is less likely given the acute
   presentation but elevated LDH would be consistent with the diagnosis.
   Nephrolithiasis less likely given lack of pain. Lack of red cell casts,
   proteinuria, dysmorphic red cells make glomerular disease less likely.
   -Followup on urine culture.
   -Trend BUN and Cr.
   -Monitor UOP for oliguria, with goal of 30cc/hr.
   3) UOP: Adequate auto-diuresis yesterday but required Lasix overnight
   for signs of pulmonary edema. LOS fluid balance is -4L.
   -Goal of  -1L today, as per above. Lasix as needed to ensure goal.
   4) Decreased Hct: Baseline anemia of Hct 32.5-39.2 since [**6-17**]//09 with
   Hct down to 32.0 yesterday with improvement this AM. B12 and folate
   WNL.  Slightly elevated PT/PTT/INR, but no clear evidence of active
   significant bleed. Stool is guaiac negative.
   -Trend Hct.
   -Transfuse for Hct <25.
   -If Hct drops, consider evaluation for hemolysis given elevated LDH:
   retic count, haptoglobin, peripheral smear.
   5) Elevated LDH: Trending up, with LDH of 394 on [**2189-7-16**] and 363 on
   [**2189-7-23**]. Differential diagnosis includes infection, hemolysis,
   hypoperfusion, and accumulative effect of steroids, antibiotics, and/or
   opiates. No leukocytosis yesterday. Hemolysis possible per above.
   Transaminases continue to be  stable and normal, making  liver
   pathology less likely. Last lactate was 0.9 on [**2189-7-22**].
   -Continue to trend LDH.
   -Check CBC, as per above.
   6) Prolonged PT/PTT. Differential diagnosis heparin therapy and/or
   insufficient nutrition.
   -Advance diet as tolerated.
   -Consider vitamin K for further increases of INR and/or decreasing
   heparin SC from 5000 units TID to [**Hospital1 **] for further prolongation of PTT
   if coags do not resolve with dietary advancement.
   7) Diet: Tolerated avancement from NPO to dysphagia diet yesterday.
   Speech and swallow will re-evaluate on Monday. We can consult nutrition
   for further input as needed pending this evaluation.
   -Continue dysphagia diet pending speech and swallow evaluation.
   8) Agitation. History of agitation/anxiety. Has received Haldol, with
   improvement of agitation.
   -Continue Haloperidol 0.25 mg IV TID PRN agitation.
   9) HTN: Increased from 30 to 60 mg PO, but he continued to receive 30
   mg yesterday.
   -Monitor BP today on Imdur 60 mg.
   10) IPF: Tapering steroids per Dr. [**Last Name (STitle) 549**]
s recommendations over 10
   days to 40 mg. Currently on total 90 mg daily, day [**3-27**] of steroid
   taper to 40 mg. Could likely remain on 90 mg for another day.
   -Continue methylprednisolone at 30 mg IV Q8H today; decrease by 10 mg
   tomorrow.
   -Restarted NAC (previously held for NPO status)
   11) Constipation: Multiple guaiac negative stool after 10 days without
   BM.
   -Continue bowel regimen.
   12) CAD:  Continue ASA, Plavix, Imdur, Atorvastatin.
   13) FEN:
   -Dysphagia diet, as per above.
   - Glycemic control: ISS fingerstick checks decreased to [**Hospital1 **] given lack
   of need for insulin per scale.
   14) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   15) Access:
   -Remove R IJ
   -Continue with peripherals, L A-line
   16) Code: Full confirmed with patient and daughter
   17) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   18) Disposition: pending above. Ideally goal would be to wean from high
   flow O2.
   ICU Care
   Nutrition: Dysphagia diet
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   Multi Lumen - [**2189-7-18**] 02:50 PM
   Prophylaxis:
   DVT:  subcutaneous heparin, SCD
   Stress ulcer: H2blocker
   VAP:
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: pending above.

2189-07-27 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Desat to high 60's after taking PO NAC, did not initially go up with
   high flow, given albuterol with increase in sats. D/C'ed NAC. CXR
   ordered - unchanged, ABG ordered - PaO2 in 30's. Nasal canula 4L and 6L
   O2 sats to 85.
   Peripheral IV placed, IJ pulled.
 MULTI LUMEN - STOP [**2189-7-26**] 07:22 PM
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-7-24**] 10:00 AM
   Vancomycin - [**2189-7-24**] 08:56 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-7-26**] 12:39 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-26**] 06:43 PM
   Famotidine (Pepcid) - [**2189-7-26**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-27**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 83 (62 - 97) bpm
   BP: 96/84(90) {95/46(64) - 140/84(96)} mmHg
   RR: 32 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
                  Total In:
                                                                    580 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    550 mL
   Urine:
                                                                  2,265 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.50/36/71/24/4
   PaO2 / FiO2: 118
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   12.0 g/dL
   121 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   33 mg/dL
   104 mEq/L
   139 mEq/L
   39
   10.4 K/uL
        [image002.jpg]
                             [**2189-7-25**]  04:09 AM
                             [**2189-7-25**]  04:46 AM
                             [**2189-7-25**]  06:25 PM
                             [**2189-7-26**]  04:08 AM
                             [**2189-7-26**]  04:16 AM
                             [**2189-7-26**]  02:22 PM
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
   WBC
   10.9
   10.1
   12.1
   10.4
   Hct
   33.1
   32.0
   35.9
   34.0
   37
   35.6
   39
   Plt
   174
   191
   172
   186
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   28
   27
   29
   31
   29
   Glucose
   117
   106
   103
   121
   121
   Other labs: PT / PTT / INR:13.9/38.2/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:36/43, Alk Phos / T Bili:81/1.4,
   Differential-Neuts:95.0 %, Lymph:3.7 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:632 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Microbiology: Urine culture negative
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with improving
   respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. No signs of infection during admission. He was
   extubated stable most of yesterday on 60% FiO2, Sp02 generally >/= 90%.
   He completed 10 days of cefepime, vancomycin and ciprofloxacin for
   health care associated pneumonia, which was discontinued for lack of
   evidence of pneumonia. Resolution of tachypneic episode/crackles on
   auscultation last night with Lasix suggests that fluid overload may
   continue to limit his respiratory status. Coughing has prevented him
   from sleep and likely precipitates tachypneic episodes. Home O2
   requirement is 2L nasal cannula, with SpO2  94%. Nasal canula failed
   yesterday.
   - Wean FiO2 as tolerated.
   - Cont to attempt to get patient to nasal canula
   - Hydrocodone PRN for cough (has not gotten due to not taking PO meds)
   - Bactrim prophylaxis
   - Follow SpO2
   - ABG for changing clinical status
   2) Diet: Pt had desaturation with PO, nurses worried that patient is
   aspiration risk, not comfortable giving PO medications at this time
   - Await recs from speech and swallow today
   - If able, restart PO medications
   3) Bacteriuria, hematuria, WBC in urine, in the setting of Foley
   catheterization. Diffential diagnosis includes trauma and infection.
    - Urine culture was negative
   4) UOP: Adequate auto-diuresis yesterday but required Lasix overnight
   for signs of pulmonary edema. LOS fluid balance is -4L.
   - Lasix with goal of  even to -1L today, as per above.
   - Monitor BUN/Cr
   - Monitor electrolytes for development of hypokalemia and alkalosis
   from Lasix use.
   5) Decreased Hct: Baseline anemia of Hct 32.5-39.2 since [**6-17**]//09 with
   Hct down to 32.0 yesterday, with improvement this AM. B12 and folate
   WNL.  Slightly elevated PT/PTT/INR, but no clear evidence of active
   significant bleed. Stool is guaiac negative.  Stable.
   - Trend Hct.
   - Transfuse for Hct <25.
   - If Hct drops, consider evaluation for hemolysis given elevated LDH:
   retic count, haptoglobin, peripheral smear.
   6) Prolonged PT/PTT. Differential diagnosis heparin therapy and/or
   insufficient nutrition.
   -Dysphagia diet, as per above.
   -Consider vitamin K for further increases of INR and/or decreasing
   heparin SC from 5000 units TID to [**Hospital1 **] for further prolongation of PTT
   if coags do not resolve with dietary advancement.
    7) Difficulty sleeping: Likely due to cough. We will reassess pending
   the initiation of anti-tussive regimen, as per above, and will consider
   Haldol 1 mg IV PRN insomnia as needed.
   8) Agitation. History of agitation/anxiety. Has received Haldol, with
   improvement of agitation.
   -Continue Haloperidol 0.25 mg IV TID PRN agitation.
   9) HTN: Increased from 30 to 60 mg PO, but he continued to receive 30
   mg yesterday.
   - When able to tolerate, restart PO medications
   10) IPF: Tapering steroids per Dr. [**Last Name (STitle) 549**]
s recommendations over 10
   days to 40 mg. Currently on total 90 mg daily, day [**3-27**] of steroid
   taper to 40 mg. Could likely remain on 90 mg for another day.
   - Continue methylprednisolone at 20 mg IV Q8H today.
   - Held NAC due to NPO status
   11) Constipation: Multiple guaiac negative stool after 10 days without
   BM.
   -Continue bowel regimen.
   11) CAD:  Continue ASA, Plavix, Imdur, Atorvastatin.
   12) FEN:
   - NPO until speech and swallow recs
   - Glycemic control: D/C
d ISS given lack of need.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access: R IJ removed
   - Peripheral IV
   - A-Line
   15) Code: Full confirmed with patient and daughter
   16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   17) Disposition: pending above.
 HYPERTENSION, BENIGN
 COUGH
 ALTERATION IN NUTRITION
 BRADYCARDIA
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   20 Gauge - [**2189-7-26**] 09:13 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-07-28 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old man with a history of idiopathic pulmonary
   fibrosis admitted for dyspnea suspected to be an  IPF exacerbation.
   24 Hour Events:
   Passed swallow eval, diet is thickened liquids but O2 sats worse so
   holding PO. O2 requirement 6L NC + non-rebreather yesterday. Weaned
   this AM to 80% high flow, with SpO2 >/=90-95%
   Diuresed, became hypotensive, tachycardic with increased 02
   requirement.
   Got Fluid bolus, improved BPs. Hct stable.
   Spoke with him/daughter about reintubating if 02 sat continues to get
   worse, agreed with plan.
   Methylprednisolone taper now at 20 mg IV TID
   Cough improved per nursing on hydrocodone.
   Plan for family meeting today, 3PM.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2189-7-27**] 02:00 PM
   Famotidine (Pepcid) - [**2189-7-27**] 08:18 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-28**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-28**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 74 (74 - 118) bpm
   BP: 96/39(59) {83/39(59) - 134/86(97)} mmHg
   RR: 27 (20 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.2 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                    720 mL
                                                                     63 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    600 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    350 mL
   Urine:
                                                                  2,785 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,065 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: High flow neb FiO2 80
   SpO2: 96%
   ABG: 7.47/39/104/26/4 on 6L NC + nonrebreather
   PaO2 / FiO2: 109
   Physical Examination
   General Appearance: Alert and communicative.
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Extremities: Warm and well-perfused. 1+ dorsalis pedis. No cyanosis or
   edema. 10cm ecchymosis on the left anterior upper arm, marked with pen
   without changes to margin.
   Abdomen: Soft, non-tender, non-distended. + BS.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   11.3 g/dL
   149 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   41 mg/dL
   107 mEq/L
   140 mEq/L
   34.0 %
   12.0 K/uL
        [image002.jpg]
   BUN was 33 yesterday, baseline >20.
                             [**2189-7-25**]  06:25 PM
                             [**2189-7-26**]  04:08 AM
                             [**2189-7-26**]  04:16 AM
                             [**2189-7-26**]  02:22 PM
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
   WBC
   10.1
   12.1
   10.4
   12.0
   Hct
   32.0
   35.9
   34.0
   37
   35.6
   39
   34.0
   Plt
   191
   172
   186
   182
   Cr
   0.9
   0.9
   0.9
   0.8
   TCO2
   27
   29
   31
   29
   29
   Glucose
   106
   103
   121
   121
   149
   Other labs: PT / PTT / INR:13.2/33.7/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:41/43, Alk Phos / T Bili:78/1.1,
   Differential-Neuts:95.0 %, Lymph:3.7 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:575 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   UCx with no growth.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with slowing
   declining respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. No  fevers or significant increases in WBC
   since admission. He was extubated 5 days ago. He completed 10 days of
   cefepime, vancomycin and ciprofloxacin for health care associated
   pneumonia, which was discontinued for lack of evidence of pneumonia.
   Decreased O2 requirement from yesterday (6 L NC + non-rebreather) to
   FiO2 80 high flow mask today. Cough clinically improved although
   patient continues to report. Home O2 requirement is 2L nasal cannula,
   with SpO2  94%; goal would be to return to an O2 requirement as close
   as possible to this baseline. However, his IPF has appeared to have
   worsened. Consider chest CT to establish new baseline for IPF to aid in
   family meeting.
   - Wean FiO2 as tolerated.
   - Cont to attempt to get patient to nasal canula
   - Continue Hydrocodone PRN for cough
   - Continue Bactrim prophylaxis in the setting of steroids
   - Follow SpO2
   - ABG for changing clinical status
   -Family meeting today to address goals of care.
   2) Diet: Speech and swallow recommended nectar thick liquids and ground
   solids with 1:1 supervision when stable. He has tolerated meds in
   nectar well.
   -Advanced diet to nectar thick liquids.
   -Restart PO medications.
   3) Hypotensive episode: In the setting of diuresis and negative LOS
   fluid. Improved with IVF. BUN:Cr ratio >20 corroborates pre-renal
   process. No signs of acute bleed, with Hct generally stable and within
   his baseline range.
   -No aggressive diuresis today. Fluid goal 30 cc/hr.
   -Continue to monitor BP.
   -Check Hct at 16:00.
   -Check BUN and Cr tomorrow.
   4) UOP: LOS fluid balance is -6.8L, so no indication for aggressive
   diuresis today as per above. Elevated BUN likely reflects pre-renal
   process, Cr stable and WNL.
    - Goal 30 cc/hr, as per above.
   -BUN and Cr tomorrow, as per above.
   4) Decreased Hct: Down from Hct 39 yesterday to 34.0 today. Likely
   reflects lab aberration since Hct was 35.6 when measured 15 minutes
   prior to Hct of 39. Baseline anemia of Hct 32.5-39.2 since [**6-17**]//09.
   B12, folate,  and PT/PTT/INR WNL, and there is no clear evidence of
   active significant bleed. Stool is guaiac negative.  If Hct continues
   to drop, consider evaluation for hemolysis given elevated LDH: retic
   count, haptoglobin, peripheral smear.
   -Hct at 16:00, as per above.
   - Transfuse for Hct <25.
   5) Prolonged PT/PTT. Differential diagnosis heparin therapy and/or
   insufficient nutrition. Currently resolved.
    -Diet as per above.
   6) Difficulty sleeping: Likely due to cough. Did not receive Haldo
   yesterday. If anti-tussives + Haldol do not lead to improved sleep
   tonight, consider increasing Haldol to 1 mg Qbedtime.
   -Continue anti-tussive regimen, as per above.
   7) Agitation. History of agitation/anxiety.
   -Continue Haloperidol 0.25 mg IV TID PRN agitation.
   8) HTN: Resolved after weaning from sedation/intubation.
   - Restart Imdur 60 mg PO
   9) IPF: Tapering steroids per Dr. [**Last Name (STitle) 549**]
s recommendations over 10
   days to 40 mg. Currently on total 60 mg daily, day [**5-27**] of steroid
   taper to 40 mg.
   - Continue methylprednisolone at 20 mg IV Q8H today. Decrease to 20 mg
   IV BID tomorrow.
   - Restarted NAC.
   10 ) Hematuria. UCx negative.
   -Continue to monitor Hct and UOP.
   10) Constipation: 2 days ago, he had guaiac negative stool x 4 after 10
   days without BM. No BM since.
   -Continue bowel regimen.
   11) CAD:  Continue ASA, Plavix, Imdur, Atorvastatin.
   12) FEN:
   - Thickened liquids per speech and swallow recs.
   - Glycemic control: Not required at this time.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access: R IJ removed
   - Peripheral IV
   - A-Line
   15) Code: Full confirmed with patient and daughter
   16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**] .  Family meeting with
   pt, Farsi speaker and daughter to discuss goals of care today.
   17) Disposition: pending above.
   ICU Care
   Nutrition: Thickened fluids
   Glycemic Control:  N/A
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   20 Gauge - [**2189-7-27**] 10:28 PM
   Prophylaxis:
   DVT:  subcutaneous heparin, pneumoboots
   Stress ulcer: H2blocker
   VAP:
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: When weaned of high flow O2 with minimal desaturation,
   consider transfer to floor.

2189-07-29 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned to FiO2 high flow mask yesterday but required FiO2 increase from
   80 to 90 overnight. Switched to FiO2 95 this AM in anticipation of
   desat while moving to chair. Desaturation with exertion and with
   anxiety, which otherwise resolves without intervention.
   Tolerated advancement of diet to thickened liquids, and PO meds were
   restarted.
   UOP >30 cc/hr.
   NAC restarted.
   Family meeting with Farsi interpreter today, with extensive discussion
   regarding the nature of IPF and the goal to wean O2 requirement to
   permit transfer to rehab.
   Slept for 5 hours last night after 10 mg guaifenesin-codeine, which was
   an improvement.
   No BM since [**2189-7-25**], at which point he had BM x 4.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-7-28**] 09:39 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-29**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 75 (75 - 113) bpm
   BP: 106/51(69) {92/49(65) - 129/79(93)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 83.2 kg
   Height: 68 Inch
                  Total In:
                                                                    668 mL
                                                                    120 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    188 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    520 mL
   Urine:
                                                                  1,130 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96% on FiO2 95
   ABG: ///26/
   Physical Examination
   General Appearance: Alert and interactive
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Respiratory / Chest: Rhonchi bilaterally on anterior exam
   Abdominal: Soft, non-tender, bowel sounds present
   Extremities: Warm, 1+ dorsalis pedis. No edema or cyanosis. 5 cm
   hematoma with 10 cm ecchymosis on left anterior forearm without change
   from yesterday.
   Labs / Radiology
   183 K/uL
   11.0 g/dL
   156 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   43 mg/dL
   107 mEq/L
   141 mEq/L
   33.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2189-7-26**]  04:16 AM
                             [**2189-7-26**]  02:22 PM
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
                             [**2189-7-28**]  06:27 PM
                             [**2189-7-29**]  03:00 AM
   WBC
   10.4
   12.0
   13.1
   Hct
   34.0
   37
   35.6
   39
   34.0
   34.2
   33.5
   Plt
   186
   182
   183
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   27
   29
   31
   29
   29
   Glucose
   103
   121
   121
   149
   156
   Other labs: PT / PTT / INR:13.6/35.0/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:43/39, Alk Phos / T Bili:79/1.0,
   Differential-Neuts:95.0 %, Lymph:3.8 %, Mono:1.1 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:554 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with slowing
   declining respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. He was extubated 6 days ago. He completed 9
   days of cefepime, vancomycin and ciprofloxacin for health care
   associated pneumonia, which was discontinued for lack of evidence of
   pneumonia. No fevers since admission, WBC increased over past 2 days.
   O2 requirement weaned to 80% high flow yesterday but increased to 95%
   overnight. Cough improved. Etiology of increased WBC unclear. There is
   no change to his physical exam since yesterday, but there have been no
   CXR for 2 days. Home O2 requirement is 2L nasal cannula, with SpO2
   94%; goal would be to return to an O2 requirement as close as possible
   to this baseline. However, there is concern for interval progression of
   IPF that will impair his ability to achieve his baseline.
   - Wean FiO2 as tolerated.
   -CXR for leukocytosis.
   -Trend WBC
   - Continue guaifenesin-codeine PRN for cough
   - Continue Bactrim prophylaxis in the setting of steroids
   - Follow SpO2
    - ABG for changing clinical status
   2) Elevated WBC. No clear etiology. Afrebile. No change to respiratory
   exam. Hematuria, bacteriruia, and WBC in urine with Foley in place with
   U/A and negative UCx from [**2189-7-25**].
   -CXR, as per above.
   -Repeat U/A.
   -D/C Foley.
   -Trend WBC.
   3) Decreased Hct: Generally stable but continues to trend down.
   Baseline anemia of Hct 32.5-39.2 since [**6-25**]. B12, folate WNL. Hematoma
   of L upper arm; otherwise there is no clear evidence of active
   significant bleed. Stool is guaiac negative.  If Hct continues to drop,
   consider evaluation for hemolysis given elevated LDH: retic count,
   haptoglobin, peripheral smear.
   -Hct Q24H
   -Guaiac stool.
   - Transfuse for Hct <25.
   4) Diet: He has tolerated nectar thick liquids and ground solids with
   1:1 supervision.
   -Continue nectar thick liquids.
   -Follow up speech and swallow recommendations today.
   5) UOP: Adequate yesterday and >30 cc/hr. LOS fluid balance is -7L, so
   no indication for diuresis today as per above. Persisent elevated BUN
   likely reflects pre-renal process, Cr stable and WNL.
    - Goal 30 cc/hr, as per above.
   6) Anxiety/agitation: With subsequent desaturation. History of
   agitation/anxiety. Haldol 0.25mg without effect. Consider increasing
   Haldol to standing dose or Zyprexa if delirium develops. Consider
   adding SSRI in non-acute setting.
   -Lorazepam 0.25 mg PO Q4H:PRN anxiety.
   -Monitor for delirium.
   6) Difficulty sleeping: Improved last Likely due to cough. Improvement
   with 10 mg hydrocodone at night.
   -Continue anti-tussive regimen, as per above.
   7) IPF: Tapering steroids per Dr. [**Last Name (STitle) 549**]
s recommendations over 10
   days to 40 mg. Currently on total 60 mg daily, day [**5-27**] of steroid
   taper to 40 mg.
   -Decrease to 20 mg IV BID tomorrow.
   - Continue NAC.
   8 ) Hematuria. UCx negative ion [**2189-7-25**].
   -Continue to monitor Hct and UOP.
   -U/A and UCx per above.
   9) Constipation: 4 days ago, he had guaiac negative stool x 4 after 10
   days without BM. No BM since. He had not been taking PO bowel regimen
   meds because of NPO status, but diet has since been advanced.
    -Continue bowel regimen.
   10) HTN: Home dose of Imdur has been held due to BP. Ensure that hold
   parameters for rehab are specified.
   11) CAD:  Continue ASA, Plavix, Imdur, Atorvastatin.
   12) FEN:
   - Continue thickened liquids
   - Glycemic control: Not required at this time.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access:
   - Peripheral IV
   - A-Line
   15) Code: Full confirmed with patient and daughter
   16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**].
   17) Disposition: Wean from high flow O2 if possible. D/C to MACU at
   [**Hospital **] rehab (can manage high flow O2) tomorrow, pending above.
   Communicate plan to family.
   ICU Care
   Nutrition:
   Glycemic Control:  Thickened liquids
   Lines:
   Arterial Line - [**2189-7-18**] 12:19 AM
   20 Gauge - [**2189-7-27**] 10:28 PM
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer: H2 blockers
   VAP:
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: Wean from high flow O2 if possible. D/C to MACU at [**Hospital **]
   rehab (can manage high flow O2) tomorrow, pending above. Communicate
   plan to family.

2189-07-30 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old man with a history of idiopathic pulmonary fibrosis
   admitted for dyspnea thought to be consistent with IPF exacerbation.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2189-7-29**] 06:07 PM
   Weaned to FiO2 60 high flow mask yesterday but increased to 95%
   overnight. Continues to desat to 80s with any activity---recovers sats
   with slow deep breathing exercises.
   Speech and swallow recommended continuing thickened liquids, meds in
   purees, 1:1 supervision, swallow re-evaluation at rehab before
   advancing diet.
   Trial of Ativan 0.25 mg for anxiety with little effect.
   He did not sleep overnight and anxiety persists.
   No BM for 5 days.
   Increased sputum production.
   CXR no evidence of pneumonia
   U/A with persistent RBC, WBC, bacteria improved from [**2189-7-25**], negative
   for leuk and nitrite.
   A-line and Foley discontinued.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-7-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 95 (78 - 111) bpm
   BP: 122/72(83) {107/60(72) - 122/85(90)} mmHg
   RR: 30 (21 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 83.2 kg
   Height: 68 Inch
                  Total In:
                                                                    480 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    100 mL
   Urine:
                                                                  1,390 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Alert and communicative.
   Cardiovascular:  Regular rate and rhythm, normal S1 and S2
   Respiratory / Chest: Expiratory wheeze and crackles bilaterally, on
   nebs at time of exam.
   Abdominal: Soft, non-tender, non-distended. BS +
   Extremities: Warm and well-perfused. 1+ dorsalis pedis bilaterally.
   Hematoma and ecchymosis of left upper arm without change.
   Labs / Radiology
   183 K/uL
   11.1 g/dL
   132 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   104 mEq/L
   137 mEq/L
   33.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2189-7-26**]  02:22 PM
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
                             [**2189-7-28**]  06:27 PM
                             [**2189-7-29**]  03:00 AM
                             [**2189-7-30**]  03:43 AM
   WBC
   10.4
   12.0
   13.1
   12.7
   Hct
   34.0
   37
   35.6
   39
   34.0
   34.2
   33.5
   33.7
   Plt
   186
   182
   183
   183
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   29
   31
   29
   29
   Glucose
   103
   121
   121
   149
   156
   132
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:42/39, Alk Phos / T Bili:87/1.3,
   Differential-Neuts:94.3 %, Lymph:4.1 %, Mono:1.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:539 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: U/A with yellow specimen, large amounts of
   blood, trace proteins and ketones, 4 urobilin. Ngative for leuk,
   nitrites. On microscopic exam, 21-50 RBC, [**5-27**] WBC, few bacteria (all
   improved from [**2189-7-25**]).
   Imaging: CXR from [**2189-7-29**]: Severe interstitial pulmonary abnormality in
   the lung bases has been relatively stable. Suprahilar consolidation has
   varied in radiodensity, probably due to a component of atelectasis.
   There is no convincing evidence for pneumonia but that might easily go
   undetected. Heart size is normal.
   Pleural effusion if any is minimal.
   Microbiology: UCx pending.
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with slowing
   declining respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. He was extubated 6 days ago. He completed 9
   days of cefepime, vancomycin and ciprofloxacin for health care
   associated pneumonia, which was discontinued for lack of evidence of
   pneumonia. His O2 requirement has failed to improve and he has had
   increased sputum production despite optimization with diuresis,
   antibiotics, and changes to ventilation regimens. No fevers since
   admission, WBC increased over past 3 days though currently stable. CXR
   without changes to underlying parenchymal disease but given significant
   fibrosis, potential infiltrates would be difficult to assess. Etiology
   of increased WBC unclear, but he is at risk for [**Name (NI) 6601**], and fever and
   leukocytosis may be suppressed in the setting of steroids. Thus,
   empiric treatment for possible [**Name (NI) 6601**] is indicated. However, the likely
   etiology of his worsening condition is likely progression of his
   underlying IPF.
   -Start empiric Zosyn and Ciprofloxacin for possible [**Name (NI) 6601**]
   -Trend WBC.
   - Wean FiO2 as tolerated.
   - Continue guaifenesin-codeine PRN for cough
   - Continue Bactrim prophylaxis in the setting of steroids
    - Follow SpO2
    - ABG for changing clinical status
   2) Elevated WBC. As per above, no clear etiology but [**Name (NI) 6601**] is possible
   despite lack of fever and no change to CXR. U/A cleaner than U/A on
   [**2189-7-25**], neg for leuk and nitrite. Foley and A-line discontinued.
   -Trend WBC per above.
   -Follow up UCx.
   3) Decreased Hct: Stable.
   -Hct Q24H
   -Guaiac stool.
   - Transfuse for Hct <25.
   4) Constipation: 5 days ago, he had guaiac negative stool x 4 after 10
   days without BM. No BM since. He had not been taking PO bowel regimen
   meds because of NPO status, but diet has since been advanced. He has
   not received
    -Continue bowel regimen, with suppository and/or enema today.
   5) Anxiety/agitation: Started Lorazepam yesterday. Consider SSRI in
   outpatient setting.
   -Increase Lorazepam to 0.5 mg PO Q4H:PRN anxiety.
   -Monitor for delirium and respiratory depression.
   6) Elevated LDH: Etiology unlikely, potentially medication response.
   ALT mildly elevated, AST WNL, making liver disease less likely. Hct is
   stable, making hemolysis less likely. Consider hemolysis work up if Hct
   drops.
   -Continue to trend LDH and transaminases.
   7) Diet: He has tolerated nectar thick liquids and ground solids with
   1:1 supervision. Continue per speech and swallow.
   -Continue nectar thick liquids.
   8) UOP: Adequate yesterday and >30 cc/hr. LOS fluid balance is -8L, so
   no indication for diuresis today as per above. Persisent elevated BUN
   likely reflects pre-renal process, Cr stable and WNL.
     - Goal 30 cc/hr, as per above.
   9) IPF: Steroids tapered to goal of 40 mg.
    -Continue 20 mg IV BID tomorrow. Change to PO at discharge.
    - Continue NAC.
   10) HTN: Home dose of Imdur has been held due to BP. Hold parameters
   added.
   11) CAD:  Continue ASA, Plavix, Atorvastatin.
   12) FEN:
   - Continue thickened liquids
   - Glycemic control: Not required at this time.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access:
   - Peripheral IV
   15) Code: Full confirmed with patient and daughter
    16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**].
   17) Disposition: Wean from high flow O2 if possible. D/C to MACU at
   [**Hospital **] rehab (can manage high flow O2) today, pending above.
 COUGH
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   ICU Care
   Nutrition: thickened liquids, meds crushed in puree, 1:1 supervision
   Glycemic Control:  Not needed
   Lines:
   20 Gauge - [**2189-7-27**] 10:28 PM
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer: H2blocker
   VAP:  will start Zosyn/Cipro today
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**].
   Code status: Full code
   Disposition:

2189-07-31 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old male with a history of idiopathic
   pulmonary fibrosis admitted for dyspnea thought to be secondary to IPF
   exacerbation vs pnemonia.
   24 Hour Events:
   O2 requirement remains FiO2 95 on high flow mask, with 6L NC while
   eating. Continues to desaturate to 80s with any exertion. Producing
   moderate to large amounts of white sputum.
   Sputum culture collected, empirically started on Zosyn, Cipro.
   Lorazepam increased from 0.25 to 0.5 for anxiety, seemingly with good
   effect.
   1 large bowel movement.
   Slept for 4 hours last night, which is an improvement.
   Daughter seeking second opinion/possible transfer to [**Hospital3 7727**].
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-7-31**] 12:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-7-31**] 02:13 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-7-30**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2189-7-31**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-7-31**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 78 (72 - 109) bpm
   BP: 111/66(88) {90/49(50) - 121/83(187)} mmHg
   RR: 25 (22 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    400 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                      0 mL
   Urine:
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Alert and communicative.
   Cardiovascular: Regular rate and rhythm, normal S1 and S2.
   Respiratory / Chest: Rhonchi bilaterally on anterior exam.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Warm and well-perfused. 1+ dorsalis pedis. No cyanosis or
   edema. Hematoma and ecchymosis on left anteriro arm with some
   regression from pen marking.
   Labs / Radiology
   167 K/uL
   9.5 g/dL
   132 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
                             [**2189-7-28**]  06:27 PM
                             [**2189-7-29**]  03:00 AM
                             [**2189-7-30**]  03:43 AM
                             [**2189-7-31**]  02:14 AM
   WBC
   10.4
   12.0
   13.1
   12.7
   7.6
   Hct
   34.0
   37
   35.6
   39
   34.0
   34.2
   33.5
   33.7
   28.1
   Plt
   186
   182
   183
   183
   167
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   31
   29
   29
   Glucose
   103
   121
   121
   149
   156
   132
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:42/39, Alk Phos / T Bili:87/1.3,
   Differential-Neuts:94.3 %, Lymph:4.1 %, Mono:1.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:539 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: UCx pending
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with slowing
   declining respiratory status.
   1)  Respiratory Failure: The patient presented with SOB and increased
   O2 requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. He was extubated 8 days ago. He completed 9
   days of cefepime, vancomycin and ciprofloxacin for health care
   associated pneumonia. His O2 requirement has failed to improve and he
   has had increased sputum production despite optimization with diuresis,
   antibiotics, and changes to ventilation regimens. No clear signs of
   infection given no fevers since admission, WBC increased over past 3
   days but currently WNL, CXR stable. Started on empiric treatment of
   Zosyn and Cipro for possible HCAP. However, the likely etiology of his
   worsening condition is likely progression of his underlying IPF.
   - Wean FiO2 as tolerated.
   -Continue Zosyn and Cipro day 2 of 14 for HCAP.
   - Continue guaifenesin-codeine PRN for cough.
   - Continue Bactrim prophylaxis in the setting of steroids.
    - Follow SpO2.
    - ABG for changing clinical status.
   2) Decreased Hct: Down to 28.1. No clear source of blood loss. LDH has
   been elevated throughout stay, so hemolysis labs may be helpful.
   -Hct at 12:00.
   -Haptoglobin, retic count, peripheral smear.
   -Guaiac stool.
   - Transfuse for Hct <25.
   3) Elevated WBC: Currently WNL. Rapid drop in WBC likely due to
   starting hemodilution vs. starting antibiotics. On steroids, WBC count
   may be less reliable. On empiric antibiotics for HCAP, as per above.
   UCx pending.
   -Follow up UCx.
   -Continue antibiotics, per above.
   4) Constipation: 1 large BM yesterday.
    -Continue bowel regimen.
   5) Anxiety/agitation: Increased Lorazepam yesterday with moderate
   effect. Consider SSRI in outpatient setting.
   -Continue  Lorazepam to 0.5 mg PO Q4H:PRN anxiety.
   -Monitor for delirium and respiratory depression.
   6) Elevated LDH: Etiology unlikely, potentially medication response.
   ALT mildly elevated, AST WNL, making liver disease less likely.
   Hemolysis work up since Hct has dropped.
   -Continue to trend LDH and transaminases.
   -Hemolysis labs per above.
   7) Diet: He has tolerated nectar thick liquids and ground solids with
   1:1 supervision. Continue per speech and swallow.
   -Continue nectar thick liquids.
   8) UOP: Slightly suboptimal at 28 cc/hr yesterday. LOS fluid balance is
   -7L. Persisent elevated BUN likely reflects persistent pre-renal
   process, Cr stable and WNL. No indication for diuresis based on stable
   respiratory and peripheral exams.
     - Goal 30 cc/hr today.
   9) IPF: Steroids tapered to goal of 40 mg.
    -Continue methylprednisolone 20 mg IV BID.
    - Continue NAC.
   10) HTN: Home dose of Imdur has been held due to BP.
   11) CAD:  Continue ASA, Plavix, Atorvastatin.
   12) FEN:
   - Continue thickened liquids
   - Glycemic control: Not required at this time.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access:
   - Peripheral IV
   -Place PICC today since he has been refusing blood draws.
   15) Code: Full confirmed with patient and daughter
    16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**].
   17) Disposition: Case manager has located 3 MACU facilities that would
   clinically accept him, when he is clinically stable. Alternatively, he
   may be transferred to [**Hospital6 870**] per his daughter
s wishes if
   possible.
 INEFFECTIVE COPING
 COUGH
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   ICU Care
   Nutrition:
   Comments: Thickened fluids, meds crushed in puree, 1:1 supervision
   Glycemic Control:  Comments: Not required
   Lines:
   20 Gauge - [**2189-7-26**] 09:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  On Zosyn and Cipro
   Communication:  Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**]
   Code status: Full code
   Disposition: Case manager has located 3 MACU facilities that would
   clinically accept him, when he is clinically stable. Alternatively, he
   may be transferred to [**Hospital6 870**] per his daughter
s wishes if
   possible.

2189-08-01 07:24:00 Physician Resident Progress Note
Chief Complaint: This is a 76M with IPF admitted for SOB likely IPF
   exacerbation vs pneumonia now post extubation and on high-flow face
   mask with slowing declining respiratory status
   24 Hour Events:
   The family wants to be transfered to [**Hospital6 870**] for second
   opinion. [**Hospital3 **] agreed to take him today. Family is aware.
   PICC was scheduled for yesterday, refused by patient - want to get done
   at [**Hospital3 **]
   O2 sats remain generally >95% on FiO2 95 high flow mask, with 6L NC
   when eating.
   ISS restarted given glucose >150.
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2189-7-31**] 04:00 PM
   Ciprofloxacin - [**2189-8-1**] 12:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-8-1**] 02:25 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2189-7-31**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 75 (63 - 102) bpm
   BP: 104/64(73) {90/28(57) - 140/68(84)} mmHg
   RR: 23 (20 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,480 mL
                                                                    300 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   9.5 g/dL
   132 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
                             [**2189-7-28**]  06:27 PM
                             [**2189-7-29**]  03:00 AM
                             [**2189-7-30**]  03:43 AM
                             [**2189-7-31**]  02:14 AM
   WBC
   10.4
   12.0
   13.1
   12.7
   7.6
   Hct
   34.0
   37
   35.6
   39
   34.0
   34.2
   33.5
   33.7
   28.1
   Plt
   186
   182
   183
   183
   167
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   31
   29
   29
   Glucose
   103
   121
   121
   149
   156
   132
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:42/39, Alk Phos / T Bili:87/1.3,
   Differential-Neuts:94.3 %, Lymph:4.1 %, Mono:1.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:539 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: Urine cx - negative
   Assessment and Plan
   This is a 76M with IPF admitted for SOB likely IPF exacerbation vs
   pneumonia now post extubation and on high-flow face mask with slowing
   declining respiratory status.
   # Respiratory Failure: The patient presented with SOB and increased O2
   requirement with fevers, chills and leukocytosis. Unclear etiology,
   likely IPF exacerbation. He was extubated 8 days ago. He completed 9
   days of cefepime, vancomycin and ciprofloxacin for health care
   associated pneumonia. His O2 requirement has failed to improve and he
   has had increased sputum production despite optimization with diuresis,
   antibiotics, and changes to ventilation regimens. No clear signs of
   infection given no fevers since admission, WBC increased over past 3
   days but currently WNL, CXR stable. Started on empiric treatment of
   Zosyn and Cipro for possible HCAP. However, the likely etiology of his
   worsening condition is likely progression of his underlying IPF.
   - Wean FiO2 as tolerated.
   - Continue Zosyn and Cipro day 2 of 14 for HCAP.
   - Continue guaifenesin-codeine PRN for cough.
   - Continue Bactrim prophylaxis in the setting of steroids
   - Continue steroids
   - Follow SpO2.
   - ABG/CXR for changing clinical status.
   2) Decreased Hct: Down to 28.1. No clear source of blood loss. LDH has
   been elevated throughout stay, so hemolysis labs may be helpful.
   Patient declining lab draws. No labs for [**8-1**].
   - Hct at 12:00
   - Haptoglobin, retic count, peripheral smear, guiac stool - recommend
   at [**Hospital3 **]
   - Transfuse for Hct <25
   3) Elevated WBC: Currently WNL. Rapid drop in WBC likely due to
   starting hemodilution vs. starting antibiotics. On steroids, WBC count
   may be less reliable. On empiric antibiotics for HCAP, as per above.
   UCx no growth
   - Continue antibiotics, per above.
   - Culture if spikes
   4) Constipation: titrate to bowel movements
    -Continue bowel regimen.
   5) Anxiety/agitation: Increased Lorazepam yesterday with moderate
   effect. Consider SSRI in outpatient setting.
   -Continue  Lorazepam to 0.5 mg PO Q4H:PRN anxiety.
   -Monitor for delirium and respiratory depression.
   6) Elevated LDH: Etiology unlikely, potentially medication response.
   ALT mildly elevated, AST WNL, making liver disease less likely.
   Hemolysis work up since Hct has dropped.
   -Continue to trend LDH and transaminases.
   -Hemolysis labs per above.
   7) Diet: He has tolerated nectar thick liquids and ground solids with
   1:1 supervision. Continue per speech and swallow.
   -Continue nectar thick liquids.
   8) UOP: Slightly suboptimal at 28 cc/hr yesterday. LOS fluid balance is
   -7L. Persisent elevated BUN likely reflects persistent pre-renal
   process, Cr stable and WNL. No indication for diuresis based on stable
   respiratory and peripheral exams.
   - Goal 30 cc/hr today.
   9) IPF: Steroids tapered to goal of 40 mg.
    -Continue methylprednisolone 20 mg IV BID.
    - Continue NAC.
   10) HTN: Home dose of Imdur has been held due to BP.
   11) CAD:  Continue ASA, Plavix, Atorvastatin.
   12) FEN:
   - Continue thickened liquids
   - Glycemic control: ISS restarted for glucose >150.
   13) Prophylaxis: Subcutaneous heparin, H2 blocker, SCD
   14) Access:
   - Peripheral IV
   - Refused PICC, requests PICC to be done at [**Hospital3 **]
   15) Code: Full confirmed with patient and daughter
    16) Communication: Patient, [**Name (NI) **] [**Telephone/Fax (1) 7534**].
   17) Disposition: Case manager has located 3 MACU facilities that would
   clinically accept him, when he is clinically stable. To be transfered
   today to [**Hospital6 **] for second opinion.
 INEFFECTIVE COPING
 COUGH
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   ICU Care
   Nutrition:
   Comments: Thickened diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-7-26**] 09:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to other facility

2189-08-01 11:19:00 Physician Attending Progress Note
Chief Complaint: resp failure with IPF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated but on high flow O2
   Family requesting transfer to [**Hospital3 **]
   Allergies:
   Ace Inhibitors
   angioedema;
   Last dose of Antibiotics:
   Metronidazole - [**2189-7-31**] 04:00 PM
   Ciprofloxacin - [**2189-8-1**] 12:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2189-8-1**] 10:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Lipitor Colace Senna Miralax Bactrim ASA 325 Imdur 60 Atrovent Mucumyst
   Medrol 20 mg IV BID
   Zosyn Cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-8-1**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.5
C (95.9
   HR: 89 (63 - 100) bpm
   BP: 109/59(71) {90/28(57) - 140/69(84)} mmHg
   RR: 29 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 83.2 kg
   Height: 68 Inch
             Total In:
                                                                  1,480 mL
                                                                    460 mL
   PO:
                                                                    780 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: sitting up in chair on face mask answering questions via son who
   is translating
   CV: RR
   Chest: fair air movement bibasilar rales
   Abd: soft mild distended +BS
   Ext: no edema
   Labs / Radiology
   9.5 g/dL
   167 K/uL
   132 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.3 mEq/L
   42 mg/dL
   104 mEq/L
   137 mEq/L
   28.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2189-7-26**]  04:30 PM
                             [**2189-7-26**]  08:14 PM
                             [**2189-7-27**]  02:56 AM
                             [**2189-7-27**]  03:12 AM
                             [**2189-7-28**]  03:23 AM
                             [**2189-7-28**]  03:40 AM
                             [**2189-7-28**]  06:27 PM
                             [**2189-7-29**]  03:00 AM
                             [**2189-7-30**]  03:43 AM
                             [**2189-7-31**]  02:14 AM
   WBC
   10.4
   12.0
   13.1
   12.7
   7.6
   Hct
   34.0
   37
   35.6
   39
   34.0
   34.2
   33.5
   33.7
   28.1
   Plt
   186
   182
   183
   183
   167
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   31
   29
   29
   Glucose
   103
   121
   121
   149
   156
   132
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:42/39, Alk Phos / T Bili:87/1.3,
   Differential-Neuts:94.3 %, Lymph:4.1 %, Mono:1.3 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:539 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 COUGH
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   Severe IPF with possible superimposed infection now 3 days s/p
   extubation but persistent high FIO2 requirments.
   Continue steroids
 would hold at current level
   Empiric ABX after he had increased sputrum prodiction 72 hours ago
   data clarify what we are treating and without BAL it will be impossible
   to know if there is a true infection in his lungs though he is at risk
   for HAP/VAP- if gets reintubated will repeat wash for clarification
   meanwhile plan 7 days Zosyn
   Anemia: refusing labs this AM
 did want to trend HCT- will readdress
   with him and his daughter
   Remaining issues as per [**Name (NI) **]
   ICU Care
   Nutrition: po diet as able
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-7-26**] 09:13 PM
   Prophylaxis:
   DVT: boots, sc hep
   Stress ulcer: PPI
   Communication:  with pt and daughter. She is very clear that she wants
   him transffred to [**Hospital3 **] this AM. He had been accepted for transfer
   by Dr [**Last Name (STitle) 7733**] at [**Hospital3 **] last night but this AM we were told there
   could be insurance or nurnsing issues. We have clarified that his
   insurance should be fine for tx, and now I have spoken with Dr [**Last Name (STitle) 7734**]
   who is speaking with RN staff there about bed availability
 he is
   hopeful for this afternoon or tomm AM
 I will continue to follow up
   and update family
   Code status: Full code
   Disposition :ICU
 possible Tx to [**Hospital3 **] as noted above
   Total time spent: 55 minutes